2177-02-24 06:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2177-2-23**] 04:18 PM
 ARTERIAL LINE - START [**2177-2-23**] 09:02 PM
   Overnight Events:
   - started on milrinone - pressures dropped
   - so, started dopamine instead
   - UOP starting to pick up
   - excessive bleeding from supratherapeutic PTT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2177-2-23**] 10:12 PM
   Metronidazole - [**2177-2-24**] 04:03 AM
   Infusions:
   Dopamine - 5 mcg/Kg/min
   Furosemide (Lasix) - 9 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2177-2-24**] 12:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-2-24**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 35.3
C (95.5
   Tcurrent: 35
C (95
   HR: 93 (68 - 102) bpm
   BP: 109/45(64) {87/37(53) - 132/56(77)} mmHg
   RR: 5 (0 - 18) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 73 Inch
    CVP: 7 (7 - 21)mmHg
   Total In:
                                                                  1,630 mL
                                                                    339 mL
   PO:
                                                                    240 mL
   TF:
   IVF:
                                                                    340 mL
                                                                    339 mL
   Blood products:
   Total out:
                                                                    777 mL
                                                                    182 mL
   Urine:
                                                                    777 mL
                                                                    182 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    853 mL
                                                                    157 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 97%
   ABG: ///19/
   Physical Examination
   GENERAL: NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP at the jaw line.
   CARDIAC: irregular and difficult to ascultate, No m/r/g. 2+ radial
   pulses
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB in anterior fields, pt unable
   to turn or sit to listen to posterior lungs
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: Anasarca, some scotal swelling also, multiple tophi on
   fingers around small joints
   SKIN: stasis dermatitis, dressings covering leg ulcers, pt with
   multiple eccymosis and thin skin
   Labs / Radiology
   130 K/uL
   9.8 g/dL
   120
   2.6 mg/dL
   19 mEq/L
   4.6 mEq/L
   121 mg/dL
   108 mEq/L
   137 mEq/L
   30.7 %
   17.8 K/uL
        [image002.jpg]
                             [**2177-2-23**]  06:13 PM
                             [**2177-2-23**]  10:00 PM
                             [**2177-2-24**]  02:00 AM
                             [**2177-2-24**]  03:00 AM
   WBC
   17.8
   Hct
   30.7
   Plt
   130
   Cr
   2.5
   2.6
   Glucose
   155
   168
   199
   120
   Other labs: PT / PTT / INR:23.5/150.0/2.2, ALT / AST:47/49, Alk Phos /
   T Bili:114/0.5, Differential-Neuts:94.8 %, Lymph:1.4 %, Mono:2.6 %,
   Eos:1.0 %, Ca++:8.1 mg/dL, Mg++:2.4 mg/dL, PO4:7.1 mg/dL
   Assessment and Plan
   66 yo M with systolic CHF, OSA/Pulm HTN, CKD, DMII, severe PVD c/b
   multiple ulcerations presenting with massive fluid overload and acute
   on chronic renal failure in setting of afib.
   .
   # Acute on chronic CHF: HF was diagnosed [**9-14**], echo during this
   admission with worsened EF to 25%. This is thought to be [**1-7**]
   arrhythmias. Pt had difficulting with diuresis on the floor due to
   hypotension. Initial cause of HF is unclear, pt had a dilated heart. Pt
   also has pulmonary HTN which may be [**1-7**] his OSA. In prior studies his
   PA systolic pressure was estimated at 60+. Clinically, his exam is more
   c/w right than left heart failure. He likely has some Left heart
   failure, which is contributing to his edema on CXR and small oxygen
   requirment.
   - lasix gtt for now, titrate to UO 100/hr
   - [**Hospital1 **] lytes
   - continue metolazone for now
   - may need milrinone to increase BP if not able to tolerate gtt
   - CV tomorrow (see below)
   - once no longer in afib, would repeat echo to better assess EF
   - strict I's, O's
   - will restart ACE once renal function improves
   - hold BB until HF more stable
   - continue to hold home norvasc
   - continue ASA 81mg
   - place A-line for better BP monitoring
   .
   # Atrial fib/ventricular ectopy: Likely contributing to his worsening
   HF. Pt does appear to tolearte being in afib. Likely will benifit from
   cardioversion. Pt was subtheraputic on his coumadin so will need TEE
   - heparin gtt
   - cont amio
   - NPO at midnight for CV tomorrow, will need to page TEE fellow in AM
   .
   # LE ulcers: Vascular has been following, and may recommend surgical
   debridment in future. WBC was elevated and temp was lower, so abx were
   brodened from cipro cefepime.
   - will continue vanco/cefepime/flagyl for now
   - f/u blood cx results
   - vascular recs regarding possible debridement
   .
   # Acute on Chronic Renal Failure: Cr/GFR was at baseline on admission,
   now worsened in setting of diuresis and poor forward flow. Prior to his
   admission in [**9-13**] baseline Cr was 1.7, range seems to have been
   1.5-2.0.
   - monitor with diuresis
   - renally dose meds
   - will check vanco trough in AM
   - renal recs appreciated
   - may benifit from UF, but will require pressors
   .
   # AMS: had a AMS this AM. [**Month (only) 11**] have been secondary to low BP vs
   infection induced delerium. UA shows possible UTI. Pt had abx adjusted
   this AM. AMS may also be from OSA, however, pt refuses bipap
   - will monitor urine and blood cx
   - continue abx
   .
   # OSA: pt refuses bipap, venous ABG shows CO2 renention. This may
   expain his sleepiness.
   - consider trying a nasal bipap, unsure if pt has tried this type
   .
   # L pleural effusion: Likely transudative in setting of CHF. Small and
   stable on cxr [**2-23**]
   - will monitor
   - if enlarges or pt is febrile, consider a dx tap
   .
   # Ulcerative Colitis: Pt without current sx. Pt is on 20mg prednisone
   qday (normally Q48 hrs at home).
   - continue steriods for now, while pt is having transient hypotension,
   once improved will change back to home dose
   .
   # Tophaceous Gout: Diffuse tophi on exam.
   - continue renally adjusted dose of allopurinol is 150 daily
   - holding home colchicine for now
   - on increased steriod dose
   .
   # Anemia: likely related to CKD, was on EPO at [**Hospital1 **]
   - monitor for now
   .
   # Thrombocytopenia: chronic, s/p eval with negative HIT Ab, see last
   d/c summary.
   - will monitor
   .
   # Hypothyroidism: continuing home dose, TSH normal, total T4 low, but
   pt has been on amio (unsure if level was checked before or after it was
   started)
   - continue current dose
   - consider rechecking thyroid labs
   .
   # DMII: stable
   - Lantus 18qhs
   - humalog SSI
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2177-2-23**] 04:18 PM
   Arterial Line - [**2177-2-23**] 09:02 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2177-02-25 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2177-2-24**] 06:00 PM
 EKG - At [**2177-2-24**] 11:21 PM
 BLOOD CULTURED - At [**2177-2-25**] 05:10 AM
 URINE CULTURE - At [**2177-2-25**] 05:10 AM
 BLOOD CULTURED - At [**2177-2-25**] 06:51 AM
   Overnight Events:
   -heparin drip stopped
   -ENT consult: Afrin/pressure, bleeding stopped after 20 minutes
   -renal recs: needs temporary HD line - order through IR
   -changed pressor from dopamine to norepinephrine
   -got one dose of chlorthiazide in AM 500 mg with no resulting increase
   in urine output
   -stopped Lasix drip d/t no UOP (even with increasing drip rate)
   -patient intubated for increasing respiratory fatigue and hypercarbia;
   concern that he would need Swan/HD line and could not lie flat
   **during intubation large amount of blood clot was removed via suction
   from the endotracheal tube.**
   -called pulm re: concern of aspiration of blood clot from nose bleed:
   pulm could see patient tomorrow in AM (we should call if requesting
   consult for bronchoscopy)
   -seen by ENT: no posterior bleed; patch placed on friable nasal septal
   mucosa
   -patient required increasing doses of Levophed to maintain blood
   presure. Patient became increasingly tachycardic as well. Unclear if
   tachycardia was the problem or the response. Transfused 1 unit PRBC to
   improve hemodynamics.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2177-2-24**] 10:00 PM
   Metronidazole - [**2177-2-25**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Norepinephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2177-2-24**] 05:50 PM
   Midazolam (Versed) - [**2177-2-24**] 06:03 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-2-25**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.6
C (96.1
   HR: 113 (95 - 117) bpm
   BP: 81/33(47) {78/33(47) - 140/57(78)} mmHg
   RR: 15 (4 - 25) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 73 Inch
    CVP: 10 (-2 - 15)mmHg
   Total In:
                                                                  1,437 mL
                                                                  1,278 mL
   PO:
   TF:
   IVF:
                                                                  1,437 mL
                                                                    838 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    492 mL
                                                                     39 mL
   Urine:
                                                                    492 mL
                                                                     39 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    945 mL
                                                                  1,239 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (500 - 550) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 80%
   PIP: 28 cmH2O
   Plateau: 22 cmH2O
   Compliance: 40.7 cmH2O/mL
   SpO2: 96%
   ABG: 7.21/44/94.[**Numeric Identifier 433**]/17/-10
   Ve: 13.3 L/min
   PaO2 / FiO2: 118
   Physical Examination
   GEN: Intubated. Opens eyes to verbal stimuli. Able to follow commands
   somewhat. Does not respond to questioning.
   HEENT: NC/AT.
   CV: Faint; No m/r/g appreciated.
   LUNGS: Coarse ventilated BS anteriorly.
   ABD: Soft, NTND. No HSM or tenderness.
   EXTREMITIES: Anasarca, multiple tophi on fingers around small joints
   SKIN: stasis dermatitis, dressings covering leg ulcers
   NEURO: Opens eyes to verbal stimuli. Able to follow commands. Squeezes
   hands, does not wiggle toes. Does not respond to questioning. PERRL.
   Labs / Radiology
   117 K/uL
   8.2 g/dL
   169 mg/dL
   2.9 mg/dL
   17 mEq/L
   4.2 mEq/L
   126 mg/dL
   110 mEq/L
   137 mEq/L
   25.3 %
   17.7 K/uL
        [image002.jpg]
                             [**2177-2-24**]  08:27 AM
                             [**2177-2-24**]  09:40 AM
                             [**2177-2-24**]  01:46 PM
                             [**2177-2-24**]  02:07 PM
                             [**2177-2-24**]  06:42 PM
                             [**2177-2-24**]  06:54 PM
                             [**2177-2-24**]  08:51 PM
                             [**2177-2-24**]  11:30 PM
                             [**2177-2-25**]  02:27 AM
                             [**2177-2-25**]  02:35 AM
   WBC
   17.7
   Hct
   25.0
   25.4
   25.3
   Plt
   117
   Cr
   2.6
   2.8
   2.9
   TCO2
   21
   21
   21
   20
   19
   19
   Glucose
   194
   228
   169
   Other labs: PT / PTT / INR:18.4/32.2/1.7, ALT / AST:47/49, Alk Phos / T
   Bili:114/0.5, Differential-Neuts:94.8 %, Lymph:1.4 %, Mono:2.6 %,
   Eos:1.0 %, Lactic Acid:2.2 mmol/L, Ca++:7.4 mg/dL, Mg++:2.2 mg/dL,
   PO4:7.0 mg/dL
   Assessment and Plan
   66 yo M with systolic CHF, OSA/Pulm HTN, CKD, DMII, severe PVD c/b
   multiple ulcerations presenting with massive fluid overload and acute
   on chronic renal failure in setting of afib.  Now, in respiratory
   failure s/p intubation and with hypotension requiring pressors.
   .
   # Hypotension: The patient developed hypotension overnight and is now
   on pressors. He also received aggressive fluid resuscitation overnight.
   There are several possible etiologies for the patient
s hypotension.
   First, he could be septic. He does have a leukocytosis; however, he
   does not have a fever or positive blood cultures at this point.
   Additionally, the patient
s hypotension could be due to poor forward
   flow in the setting of his heart failure.
   - will add a second pressor (vasopressin) at this time, as pt is still
   hypotensive on max levophed
   - need to insert a Swan catheter to obtain more information re: the
   patient
s hemodynamics
   - starting stress dose steroids, as pt is on steroids at home
   - cardioversion needed to obtain better cardiac output (see below)
   .
   # Respiratory Failure: Likely related to his heart failure, complicated
   by poor forward flow from his atrial fibrillation. Additionally, when
   he was intubated, a large clot was suctioned out. Therefore, he could
   have some additional blood clot in his lungs, contributing to his
   respiratory failure.
   - bronchoscopy to look for any additional clot in the pt
s lungs
   - cardioversion as above
   .
   # Acute on chronic CHF: As above, the patient
s HF is likely
   contributing to his respiratory failure. Additionally, his atrial
   fibrillation is likely resulting in poor forward flow / poor cardiac
   output. Lasix, milrinone, diuril yesterday did not result in any
   increased in UOP.
   - hold off on further diuresis at this point, considering pt may be
   septic
   - cardioversion today to try to get a sinus rhythm
   - will restart ACE once renal function improves
   - hold BB until HF more stable
   - continue ASA 81mg
   .
   # Atrial fib/ventricular ectopy: Likely contributing to his worsening
   HF. Pt does appear to tolearte being in afib. Likely will benifit from
   cardioversion as above.
   - TEE and then cardioversion
   - cont amio
   - restarting heparin gtt while subtherapeutic on INR
   .
   # Bleeding: Resolved with Afrin and pressure.
   - continue to monitor
   .
   # LE ulcers: Vascular has been following, and may recommend surgical
   debridement in future. WBC was elevated and temp was lower, so abx were
   broadened from Cipro to cefepime.
   - will continue vanco/cefepime/flagyl for now
   - f/u blood cx results
   - vascular recs regarding possible debridement
   .
   # Acute on Chronic Renal Failure: Cr/GFR was at baseline on admission,
   now worsened in setting of diuresis and poor forward flow. Prior to his
   admission in [**9-13**] baseline Cr was 1.7, range seems to have been
   1.5-2.0.  Creatinine is 2.9 this morning. Renal considering placing
   temp HD line and performing HD without fluid removal.
   - monitor with diuresis
   - renally dose meds
   - renal recs appreciated
   .
   # OSA:
   - intubated at this time
   .
   # L pleural effusion: Likely transudative in setting of CHF. Small and
   stable on cxr [**2-23**]
   - will monitor
   .
   # Ulcerative Colitis: Pt without current sx. Pt is on 20mg prednisone
   qday (normally Q48 hrs at home).
   - stress dose steroids as above
   .
   # Tophaceous Gout: Diffuse tophi on exam.
   - continue renally adjusted dose of allopurinol
   - holding home colchicine for now
   - stress dose steroids as above
   .
   # Thrombocytopenia: chronic, s/p eval with negative HIT Ab, see last
   d/c summary.
   - will monitor
   .
   # Hypothyroidism: continuing home dose, TSH normal, total T4 low, but
   pt has been on amio (unsure if level was checked before or after it was
   started)
   - continue current dose
   - consider rechecking thyroid labs
   .
   # DMII: stable
   - Lantus 18qhs
   - humalog SSI
   ICU Care
   Nutrition:
   Glycemic Control:  Comments: Insulin Sliding Scale
   Lines:
   Multi Lumen - [**2177-2-23**] 04:18 PM
   Arterial Line - [**2177-2-23**] 09:02 PM
   Prophylaxis:
   DVT: restarting heparin gtt
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 7036**].
   I would add the following remarks:
   History
   Patient quite unstable today with respiratory failure and need for high
   dose Norepi and vasopressin to support BP.
   TEE shows no evidence of atrial thrombus so I proceeded with DC CV
   today with return of NSR with frequent VPCs.
   Bronchoscopy also done today after recent significant epistaxis.
   Continues on high 80% FiO2.  BUN 126 Cr 2.9.
   On triple antibiotics.
   Physical Examination
   intubated sedated
   Medical Decision Making
   Remains very unstable.
   Will consider swan to better assess fluid status after > 2L given over
   past 24 hrs to support BP.
   Covered for sepsis but suspect cardiogenic factors in shock.
   Will try to maintain NSR.   Already on Amio.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 322**] [**Last Name (NamePattern1) **], MD
   on:[**2177-2-25**] 01:46 PM ------

2177-02-26 07:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2177-2-25**] 10:30 AM
   In CCU at bedside
 TRANS ESOPHAGEAL ECHO - At [**2177-2-25**] 10:31 AM
   In CCU at bedside with ECHO Fellow and Attending present, time out
   done, pt continues on IV fentanyl 40 mcg/hr gtt and versed 1 mg/hr gtt.
   Versed 0.5 mg IV bolus given just prior to procedure for pt
   comfort/sedation.
 BRONCHOSCOPY - At [**2177-2-25**] 11:00 AM
   Bronch done at bedside with Pulm MD and Resp theapy, time out done
 CARDIOVERSION/DEFIBRILLATION - At [**2177-2-25**] 12:38 PM
   TEE performed: no thrombus, EF 30% (TEE) from 25% (TTE) on 19th,
   Severely depressed biventricular systolic function. Mild mitral
   regurgitation. Mild aortic stenosis. Complex atheroma in descending
   aorta and aortic arch.These seem stable.
   Heparin GTT was started, pt subsequently cardioverted, with return to
   sinus from aflutter.Continues to have frequent ectopy on telemetry.
   He underwent bronchoscopy which was negative, negative. Pulm
   recommended increased peep. Bronchial wash sent for Cx/gram stain.
   Heparin GTT continued post cardioversion, pt with supratherapeutic PTT
   despite down titration infusion, spontaneous bleeding from skin breaks
   in skin, GI tract with black stools, coccygeal lesion, enlarging
   ecchymoses with clots suctioned, held heparin GTT. HCT dropped to 26.1
   to 24.4 with 1 unit transfused without bump in crit, hct stable at 24.
   Hemolysis labs sent (negative).  Transfused 2 more units with post
   transfusion crit 26.8.
   Levophed weaned from to 0.08mcg
   Increased to stress dose steroids ( hydrocort 100mg IV Q8)
   Swan deferred,HD line deferred.
   HD line deferred to tomorrow.
   Heparin GTT started- patient with black/brown guiaic + stools
   -IVF fluids stopped
   --ABG at 1pm
   7.37/27/186/16
   7.28/34/210/17 02 sat 98
   from 7.21/40/85/17 02 sat 94.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2177-2-25**] 12:00 AM
   Vancomycin - [**2177-2-25**] 12:00 PM
   Cefipime - [**2177-2-25**] 10:00 PM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Vasopressin - 1.2 units/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2177-2-25**] 10:30 AM
   Fentanyl - [**2177-2-25**] 06:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-2-26**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37
C (98.6
   HR: 72 (72 - 120) bpm
   BP: 108/54(72) {78/27(46) - 138/54(75)} mmHg
   RR: 20 (15 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 119.5 kg (admission): 112 kg
   Height: 73 Inch
    CVP: 22 (11 - 286)mmHg
   Total In:
                                                                  4,457 mL
                                                                    865 mL
   PO:
   TF:
   IVF:
                                                                  3,407 mL
                                                                    115 mL
   Blood products:
                                                                    700 mL
                                                                    700 mL
   Total out:
                                                                    317 mL
                                                                    410 mL
   Urine:
                                                                    317 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,140 mL
                                                                    455 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   Compliance: 105.8 cmH2O/mL
   SpO2: 100%
   ABG: 7.37/27/186/14/-7
   Ve: 14.8 L/min
   PaO2 / FiO2: 372
   Physical Examination
   GEN: Intubated. Opens eyes to verbal stimuli. Able to follow commands
   somewhat. Does not respond to questioning.Squeezes hands, does not
   wiggle toes
   HEENT: NC/AT.
   CV: Some ectopy, Loud S2; No m/r/g appreciated.
   LUNGS:Clear anteriorly, decreased BS at L Base
   ABD: Soft, NTND. No HSM or tenderness.
   EXTREMITIES: Anasarca, multiple tophi on fingers around small joints,
   slightly enlarged eccymoses on torso/extremities
   SKIN: stasis dermatitis, dressings covering leg ulcers, open toe ulcers
   with black eschar.
   Labs / Radiology
   45 K/uL
   9.3 g/dL
   143 mg/dL
   2.6 mg/dL
   14 mEq/L
   4.6 mEq/L
   116 mg/dL
   111 mEq/L
   137 mEq/L
   26.9 %
   12.2 K/uL
        [image002.jpg]
                             [**2177-2-24**]  11:30 PM
                             [**2177-2-25**]  02:27 AM
                             [**2177-2-25**]  02:35 AM
                             [**2177-2-25**]  06:48 AM
                             [**2177-2-25**]  09:58 AM
                             [**2177-2-25**]  04:07 PM
                             [**2177-2-25**]  11:41 PM
                             [**2177-2-26**]  03:27 AM
                             [**2177-2-26**]  03:32 AM
                             [**2177-2-26**]  06:12 AM
   WBC
   17.7
   12.2
   Hct
   25.3
   26.0
   24.4
   24.0
   26.8
   26.9
   Plt
   117
   45
   Cr
   2.9
   2.8
   2.6
   TCO2
   19
   19
   17
   16
   Glucose
   169
   143
   Other labs: PT / PTT / INR:23.5/41.7/2.2, ALT / AST:47/49, Alk Phos / T
   Bili:114/0.8, Differential-Neuts:94.8 %, Lymph:1.4 %, Mono:2.6 %,
   Eos:1.0 %, Lactic Acid:2.3 mmol/L, LDH:213 IU/L, Ca++:6.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE II
 HYPOTHYROIDISM
 ULCERATIVE COLITIS
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 EPISTAXIS (NOSEBLEED)
 .H/O ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 .H/O RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC
   KIDNEY DISEASE)
   66 yo M with systolic CHF, OSA/Pulm HTN, CKD, DMII, severe PVD c/b
   multiple ulcerations presenting with massive fluid overload and acute
   on chronic renal failure in setting of afib.  Now, in respiratory
   failure s/p intubation and with hypotension requiring pressors.
   # Hypotension: Currently on 0.08 norepinephrine + stable vasopressin
   with MAPS ranging 46-75. Has EF 25%,CVP increased from 6 y/d to 18
   today in the setting of transfusiong 3U today, with pt almost 7L
   positive LOS. Clinically edematous, all consistent with volume overload
   and poor forward flow as etiology. [**Month (only) 11**] be some contribution to
   hypotension from sedating medications. Also started on high dose
   steroids y/d given suspicion for suppressed adrenal axis in setting of
   chronic steroid use. Does have widened pulse pressure, low diastolics,
   less consistent with cardiogenic shock. CXR could not exclude PNA,
   however had unremarkable bronch, but arguing against sepsis is that he
   has been afebrile, continues to have an elevated (but down trending
   WBC)and Blood, urine, stool, bronchial washings NGTD for infectious
   source/sepsis.
   -would consider swaning,better handle on hemodynamics.
   -Defer HD for now, may be able to improve renal function by optimizing
   cards.
   -wean off pressors if possible.
   -gently reinitiate diuresis.
   -possible HD line today/HD
   -strict ins/outs
   -goal even to negative 500cc
   -? wean high dose steroids.
   -continue broad spectrum abx with vanc/cefepime/flagyll?
   .
   Rythm: EF on echo had worsened from 40-55% to 25% which was attibuted
   to his ectopy. He is now s/p cardioversion for a-flutter y/d with
   improved perfusion as indicated by improving BUN/CR. Pt continues to be
   in sinus rythm with some ectopy/tachycardia, with possible contribution
   from leovphed. Was on heparin bridge to coumadin however
   supratherapeutic PTT at low gtt infusion with spontaneous bleeding from
   broken skin, OP, dark, guaic positive stools, thus heparin held.
   Will continue to hold heparin given possible HD line placement later
   today. s/p HD line placement can restart heparin/bridge to coumadin
   with plan 4 weeks anticoagulation s/p cardioversion.
   [**Name (NI) **] PTT/INR (currently 41.7 /2.2)
   Wean pressors as tolerated
   Continue amnio 400 [**Hospital1 **]
   -Resume ACE once renal function improves, BB once off pressors, BP
   tolerates.
   -continue telemetry
   .
   Coagulopathy/GI bleed: hx Ulcerative colitis, on chronic prednisone
   therapy, currently getting high dose steroids. Last colonoscopy [**2173**],
   no flares in years. Black stools, unstable HCT despite transfusion. Now
   with platelets at 45 this am from [**Age over 90 **] y/d. DD includes DIC, HIT,
   hemolysis. Hemolysis labs negative.
   f/u DIC labs, f/u peripheral smear, consider sending HIT labs (has been
   thrombocytopenic in past this hospitalization)
   -GI consulted ? scope.
   FFP x 1 unit, recheck CBC. Consider Vit K if needed, additional RBC
   transfusion
   TID crits
   .
   Respiratory Distress: semi elective intubation for airway protection in
   setting of profound epistaxis. Also has persistent pulmonary vascular
   congestion, interstitial edema consistent with heart failure and hx
   pulmonary HTN and opacities that were equivocal for
   atelectasis vs infection vs aspiration. Barriers to extubation:
   sedation (fentanyl, versed), requires further procedurization easier
   performed while intubated.
   .
   Acute on chronic renal failure:
   Renal failure improved likely [**1-7**] to improved forward flow with
   conversion to sinus.Does have none gap metabolic acidosis likely
   secondary to renal failure, unable to make adequate ammonia to excrete
   acid. [**Month (only) 11**] consider bicarb in future if continues to [**Month (only) 1174**] down.
   -continue to optimize hemodynamics, consider swan.
   -[**Month (only) 1174**] lytes [**Hospital1 **]
   -defer HD line for now
   -appreciate renal recs.
   # LE ulcers: Vascular has been following, and may recommend surgical
   debridement in future. WBC was elevated and temp was lower, so abx were
   broadened from Cipro to cefepime.
   - will continue vanco/cefepime/flagyl for now
   - f/u blood cx results
   - vascular recs regarding possible debridement
   .
   # OSA:
   - intubated at this time
   # Tophaceous Gout: Diffuse tophi on exam.
   - continue renally adjusted dose of allopurinol
   - holding home colchicine for now
   - stress dose steroids as above
   .
   # Thrombocytopenia: chronic, s/p eval with negative HIT Ab, see last
   d/c summary.
   - will monitor
   .
   # Hypothyroidism: continuing home dose, TSH normal, total T4 low, but
   pt has been on amio (unsure if level was checked before or after it was
   started)
    continue current dose
   - consider rechecking thyroid labs
   .
   # DMII: stable
   - Lantus 18qh
   - humalog SSI
   ICU Care
   Nutrition:
   Glycemic Control:  Comments: Insulin Sliding Scale
   Lines:
   Multi Lumen - [**2177-2-23**] 04:18 PM
   Arterial Line - [**2177-2-23**] 09:02 PM
   Prophylaxis:
   DVT: restarting heparin gtt
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   .
   Patient quite unstable today with respiratory failure and need for high
   dose Norepi and vasopressin to support BP.
   TEE shows no evidence of atrial thrombus so I proceeded with DC CV
   today with return of NSR with frequent VPCs.
   Bronchoscopy also done today after recent significant epistaxis.
   Continues on high 80% FiO2.  BUN 126 Cr 2.9.
   On triple antibiotics.
   Physical Examination
   intubated sedated
   Medical Decision Making
   Remains very unstable.
   Will consider swan to better assess fluid status after > 2L given over
   past 24 hrs to support BP.
   Covered for sepsis but suspect cardiogenic factors in shock.
   Will try to maintain NSR.   Already on Amio.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2177-2-23**] 04:18 PM
   Arterial Line - [**2177-2-23**] 09:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2177-02-27 07:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   labs not suggestive of DIC
   - got 5 mg IV vit K with reversal of his coagulopathy
   Held anticoagulants, started IV PPI.
   - decreased vanc dosing to q48 hours
   - put in wound care consult for sacral wound
   - hematocrit relatively stable
   - GI feels that pt's melanotic stools and blood in NGT are likely
   related to recent epistaxis; recommend trending Hct and transfusing
   PRN; also feel that thrombocytopenia and platelet dysfunction in
   setting of renal failure are likely contributors; emergent EGD if
   clinically unstable, EGD when stable otherwise
   - renal recommending Swan; also recommended getting urine lytes;
   holding off on HD line at this time
   - urine lytes: UreaN 573, Creat 66, Na <10, Osmolal 397; suggest
   prerenal
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2177-2-25**] 12:00 PM
   Cefipime - [**2177-2-26**] 10:00 PM
   Metronidazole - [**2177-2-27**] 12:00 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Norepinephrine - 0.02 mcg/Kg/min
   Vasopressin - 1.2 units/hour
   Other ICU medications:
   Fentanyl - [**2177-2-26**] 08:00 AM
   Pantoprazole (Protonix) - [**2177-2-26**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-2-27**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.4
   HR: 68 (65 - 84) bpm
   BP: 110/49(67) {85/40(56) - 160/62(86)} mmHg
   RR: 24 (8 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 121 kg (admission): 112 kg
   Height: 73 Inch
    CVP: 23 (11 - 25)mmHg
   Total In:
                                                                  1,987 mL
                                                                    110 mL
   PO:
   TF:
   IVF:
                                                                    525 mL
                                                                     50 mL
   Blood products:
                                                                  1,282 mL
   Total out:
                                                                  1,240 mL
                                                                    265 mL
   Urine:
                                                                  1,050 mL
                                                                    265 mL
   NG:
                                                                    190 mL
   Stool:
   Drains:
   Balance:
                                                                    747 mL
                                                                   -155 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: 7.39/34/172/15/-3
   Ve: 14.8 L/min
   PaO2 / FiO2: 430
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   39 K/uL
   8.9 g/dL
   103 mg/dL
   2.2 mg/dL
   15 mEq/L
   3.9 mEq/L
   115 mg/dL
   111 mEq/L
   138 mEq/L
   26.1 %
   9.3 K/uL
        [image002.jpg]
                             [**2177-2-26**]  03:27 AM
                             [**2177-2-26**]  03:32 AM
                             [**2177-2-26**]  06:12 AM
                             [**2177-2-26**]  09:06 AM
                             [**2177-2-26**]  11:57 AM
                             [**2177-2-26**]  06:15 PM
                             [**2177-2-26**]  06:25 PM
                             [**2177-2-27**]  12:26 AM
                             [**2177-2-27**]  03:57 AM
                             [**2177-2-27**]  04:36 AM
   WBC
   12.2
   10.7
   10.0
   8.5
   9.3
   Hct
   26.8
   26.9
   26.6
   25.2
   25.2
   26.1
   Plt
   45
   40
   36
   40
   39
   Cr
   2.6
   2.7
   2.2
   TCO2
   16
   20
   19
   21
   Glucose
   143
   133
   103
   Other labs: PT / PTT / INR:16.8/32.2/1.5, ALT / AST:47/49, Alk Phos / T
   Bili:114/1.2, Differential-Neuts:94.8 %, Lymph:1.4 %, Mono:2.6 %,
   Eos:1.0 %, D-dimer:238 ng/mL, Fibrinogen:588 mg/dL, Lactic Acid:1.0
   mmol/L, Albumin:2.5 g/dL, LDH:177 IU/L, Ca++:7.3 mg/dL, Mg++:2.1 mg/dL,
   PO4:5.3 mg/dL
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE II
 HYPOTHYROIDISM
 ULCERATIVE COLITIS
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 EPISTAXIS (NOSEBLEED)
 .H/O ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 .H/O RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC
   KIDNEY DISEASE)
   Improved hemodynamics with synchronized rhythm, cardiac output
   improved. Also responded well with volume expansion with blood
   products, suggesting intravascularly dry. At this point UOP is
   Once mobilizing fluid can consider diuresis but in the interim keep
   even to positive.
   Renal recs: Keep CVP around 15-20
   66 yo M with systolic CHF, OSA/Pulm HTN, CKD, DMII, severe PVD c/b
   multiple ulcerations presenting with massive fluid overload and acute
   on chronic renal failure in setting of a fib.  Now, in respiratory
   failure s/p intubation and with hypotension requiring pressors.
   # Hypotension: Currently on 0.08 norepinephrine + stable vasopressin
   with MAPS ranging 46-75. Has EF 25%,CVP increased from 6 y/d to 18
   today in the setting of transfusiong 3U today, with pt almost 7L
   positive LOS. Clinically edematous, all consistent with volume overload
   and poor forward flow as etiology. [**Month (only) 11**] be some contribution to
   hypotension from sedating medications. Also started on high dose
   steroids y/d given suspicion for suppressed adrenal axis in setting of
   chronic steroid use. Does have widened pulse pressure, low diastolics,
   less consistent with cardiogenic shock. [**Month (only) 11**] also be hypovolemic from
   blood loss. CXR could not exclude PNA, however had unremarkable bronch,
   but arguing against sepsis is that he has been afebrile, continues to
   have an elevated (but down trending WBC)and Blood, urine, stool,
   bronchial washings NGTD for infectious source/sepsis.
   -would consider swaning,better handle on hemodynamics. Difficulty of
   swan is that she has large IV, can reinitiate IV.
   -Defer HD for now, may be able to improve renal function by optimizing
   forward flow
   -wean off pressors if possible.
   -strict ins/outs
   -goal even to negative 500cc
   -? wean high dose steroids.
   -continue broad spectrum abx with vanc/cefepime/flagyll.
   .
   Rythm: EF on echo had worsened from 40-55% to 25% which was attibuted
   to his ectopy. He is now s/p cardioversion for a-flutter y/d with
   improved perfusion as indicated by improving BUN/CR. Pt continues to be
   in sinus rythm with some ectopy/tachycardia, with possible contribution
   from leovphed. Was on heparin bridge to coumadin however
   supratherapeutic PTT at low gtt infusion with spontaneous bleeding from
   broken skin, OP, dark, guaic positive stools, thus heparin held.
   Will continue to hold heparin given possible HD line placement later
   today. s/p HD line placement can restart heparin/bridge to coumadin
   with plan 4 weeks anticoagulation s/p cardioversion.
   [**Name (NI) **] PTT/INR (currently 41.7 /2.2)
   Wean pressors as tolerated
   Continue amnio 400 [**Hospital1 **]
   -Resume ACE once renal function improves, BB once off pressors, BP
   tolerates.
   -continue telemetry
   .
   Coagulopathy/GI bleed: hx Ulcerative colitis, on chronic prednisone
   therapy, currently getting high dose steroids. Last colonoscopy [**2173**],
   no flares in years. Black stools, unstable HCT despite transfusion. Now
   with platelets at 45 this am from [**Age over 90 **] y/d. DD includes DIC, HIT,
   hemolysis. Hemolysis labs negative.
   f/u DIC labs, f/u peripheral smear, consider sending HIT labs (has been
   thrombocytopenic in past this hospitalization)
   -GI consulted ? scope.
   FFP x 2 unit, vitamin K 5, consider platelets. recheck CBC. if needed,
   additional RBC transfusion
   TID crits
   .
   Respiratory Distress: semi elective intubation for airway protection in
   setting of profound epistaxis. Also has persistent pulmonary vascular
   congestion, interstitial edema consistent with heart failure and hx
   pulmonary HTN and opacities that were equivocal for
   atelectasis vs infection vs aspiration. Barriers to extubation:
   sedation (fentanyl, versed), requires further procedurization easier
   performed while intubated.
   .
   Acute on chronic renal failure:
   Renal failure improved likely [**1-7**] to improved forward flow with
   conversion to sinus.Does have none gap metabolic acidosis likely
   secondary to renal failure, unable to make adequate ammonia to excrete
   acid. [**Month (only) 11**] consider bicarb in future if continues to [**Month (only) 1174**] down.
   -continue to optimize hemodynamics, consider swan.
   -[**Month (only) 1174**] lytes [**Hospital1 **]
   -defer HD line for now
   -appreciate renal recs.
   .
   # LE ulcers: Vascular has been following, and may recommend surgical
   debridement in future. WBC was elevated and temp was lower, so abx were
   broadened from Cipro to cefepime.
   - will continue vanco/cefepime/flagyl for now
   - f/u blood cx results
   - vascular recs regarding possible debridement
   .
   # OSA:
   - intubated at this time
   # Tophaceous Gout: Diffuse tophi on exam.
   - continue renally adjusted dose of allopurinol
   - holding home colchicine for now
   - stress dose steroids as above
   .
   # Thrombocytopenia: chronic, s/p eval with negative HIT Ab, see last
   d/c summary.
   - will monitor
   .
   # Hypothyroidism: continuing home dose, TSH normal, total T4 low, but
   pt has been on amio (unsure if level was checked before or after it was
   started)
    continue current dose
   - consider rechecking thyroid labs
   .
   ICU Care
   Nutrition: # DMII: stable
   - Lantus 18qh
   - humalog SSI
   Glycemic Control:  Comments: Insulin Sliding Scale
   Lines:
   Multi Lumen - [**2177-2-23**] 04:18 PM
   Arterial Line - [**2177-2-23**] 09:02 PM
   Prophylaxis:
   DVT: restarting heparin gtt
   Stress ulcer:
   VAP:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2177-2-23**] 04:18 PM
   Arterial Line - [**2177-2-23**] 09:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2177-02-28 06:38:00 Physician Resident Progress Note
TITLE: Physician Resident Progress Note
   Chief Complaint:
   24 Hour Events:
   -started tube feeds
   -around noon, briefly dropped BP to 60s/30s lines were being adjusted.
   Unclear etiology. Possible that pressor infusion was briefly
   interrupted. BP improved quickly with pressors.
   -vascular surgery recs: cont vanc/cefepime/flagyl, bedrest/ACE/elevate,
   elevate RUE
   -renal recs: Goal CVP 20-24. If CVP<16 give colloids. Check daily vanc
   trough and urine lytes.
   -started Lasix gtt, but stopped this when CVP fell to 17
   -Blood culture growing yeast. Started micafungin, resited central line,
   and consulted ID.
   -Transfused 1 bag platelets prior to resiting central line, with
   platelet count increased from 36 to 55
   -ID recs:
    check repeat blooc cx from CVL and periphery, plus mycolytic blood cx
    daily blood cx; d/c CVL and send tip for culture
    will need eye exam several days after infection is under control to
   assess for [**First Name5 (NamePattern1) 444**] [**Last Name (NamePattern1) 11629**]
    continue micafungin, vanc, cefepime, metronidazole
    ongoing podiatry involement likely to be beneficial to judge needfor
   debridement of L foot infection
   -Wound care left recs for gluteal wound - copied into order in POE
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2177-2-25**] 12:00 PM
   Cefipime - [**2177-2-26**] 10:00 PM
   Metronidazole - [**2177-2-27**] 12:00 AM
   Micafungin - [**2177-2-27**] 01:15 PM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Norepinephrine - 0.02 mcg/Kg/min
   Vasopressin - 1.2 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2177-2-27**] 08:00 AM
   Fentanyl - [**2177-2-27**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-2-28**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.2
C (97.2
   HR: 63 (56 - 72) bpm
   BP: 125/41(65) {62/28(38) - 165/76(220)} mmHg
   RR: 20 (15 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 121 kg (admission): 112 kg
   Height: 73 Inch
    CVP: 15 (13 - 24)mmHg
   Total In:
                                                                  2,222 mL
                                                                    270 mL
   PO:
   TF:
                                                                    100 mL
                                                                    162 mL
   IVF:
                                                                  1,672 mL
                                                                    108 mL
   Blood products:
                                                                    300 mL
   Total out:
                                                                    920 mL
                                                                    555 mL
   Urine:
                                                                    920 mL
                                                                    555 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,302 mL
                                                                   -285 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 20 cmH2O
   Compliance: 57.9 cmH2O/mL
   SpO2: 100%
   ABG: 7.34/30/123/16/-8
   Ve: 14.3 L/min
   PaO2 / FiO2: 308
   Physical Examination
   GEN: Intubated. Responds  to verbal stimuli. Does not follow commands.
   Got dose of fentanyl prior to exam
   HEENT: NC/AT.
   CV: Some ectopy, Loud S2; No m/r/g appreciated.
   LUNGS:Clear anteriorly, decreased BS at L Base
   ABD: Soft, NTND. No HSM or tenderness.
   EXTREMITIES: Anasarca, multiple tophi on fingers around small joints,
   slightly enlarged eccymoses on torso/extremities
   SKIN: stasis dermatitis, dressings covering leg ulcers, open toe ulcers
   with black eschar.
   Labs / Radiology
   65 K/uL
   9.0 g/dL
   121 mg/dL
   2.1 mg/dL
   16 mEq/L
   4.1 mEq/L
   119 mg/dL
   109 mEq/L
   137 mEq/L
   26.3 %
   9.6 K/uL
        [image002.jpg]
                             [**2177-2-26**]  06:25 PM
                             [**2177-2-27**]  12:26 AM
                             [**2177-2-27**]  03:57 AM
                             [**2177-2-27**]  04:36 AM
                             [**2177-2-27**]  03:54 PM
                             [**2177-2-27**]  04:14 PM
                             [**2177-2-27**]  07:41 PM
                             [**2177-2-28**]  01:27 AM
                             [**2177-2-28**]  04:14 AM
                             [**2177-2-28**]  04:27 AM
   WBC
   8.5
   9.3
   9.8
   9.6
   Hct
   25.2
   26.1
   25.8
   26.3
   Plt
   40
   39
   36
   55
   65
   Cr
   2.2
   2.2
   2.1
   TCO2
   19
   21
   21
   17
   17
   Glucose
   103
   87
   121
   Other labs: PT / PTT / INR:14.8/29.1/1.3, ALT / AST:19/20, Alk Phos / T
   Bili:102/0.9, Differential-Neuts:95.7 %, Lymph:2.0 %, Mono:2.1 %,
   Eos:0.2 %, D-dimer:238 ng/mL, Fibrinogen:588 mg/dL, Lactic Acid:0.7
   mmol/L, Albumin:2.5 g/dL, LDH:185 IU/L, Ca++:7.8 mg/dL, Mg++:2.6 mg/dL,
   PO4:5.6 mg/dL
   Assessment and Plan
   66 yo M with systolic CHF, OSA/Pulm HTN, CKD, DMII, severe PVD c/b
   multiple ulcerations presenting with massive fluid overload and acute
   on chronic renal failure in setting of a fib.  Now, in respiratory
   failure s/p intubation and with hypotension requiring pressors.
   # Hypotension:  Initially thought to be contribution from hypovolemia
   in setting of bleeding, per GI blood likely 2.2 epistaxis not GI bleed.
   CVPs 20-25  with patient with warm extremities currently. DD includes
   cardiogenic vs distributive shock. Has evidence volume overload on CXR
   and clinically but also has CXR findings concerning for PNA. Of note
   BAL Fluid shows yeast and now noted to have yeast bacteremia. Primary
   pulmonary process ongoing, not a candidate for extubation currently
   -broaden antibiotics to micafungin
   -continue vanc/cefepime/flagyll for now
   -consider d/c high dose steroids.
   -resite lines
   -ID consult
   -serial ABG with vent changes
   .
   Yeast bacteremia: Hypotensive with septic physiology, currently on high
   dose steroids.
   -start micafungin
   Consult ID,
   Consider d/c high dose steroids
   -resite lines
   -follow culture data
   ,
   Coagulopathy: hx Ulcerative colitis, on chronic prednisone therapy,
   currently getting high dose steroids. Last colonoscopy [**2173**], no flares
   in years. Black stools, unstable HCT despite transfusion. Now with
   platelets at 45 this am from [**Age over 90 **] y/d. DD includes DIC, HIT, hemolysis.
   Hemolysis labs negative. HIT/ ADAMST13 negative in past. Has hx of MDS
   -TID HCT
   -trend platelets, no transfusion currently given absence spontaneous
   bleeding
   -trend INR/PTT.
   -hold heparin for now, may consider restarting in future if stable
   coags/HCT.
   .
   Acute on chronic renal failure:
   Renal failure improved likely [**1-7**] to improved forward flow with
   conversion to sinus.Does have none gap metabolic acidosis likely
   secondary to renal failure, unable to make adequate ammonia to excrete
   acid. [**Month (only) 11**] consider bicarb in future if continues to trend down.
   -continue to optimize hemodynamics, swan deferred given risk of
   incurring afib/flutter
   -trend lytes [**Hospital1 **]
   -defer HD line for now
   -appreciate renal recs.
   .
   # LE ulcers: Vascular has been following, and may recommend surgical
   debridement in future. WBC was elevated and temp was lower, so abx were
   broadened from Cipro to cefepime, now has yeast bacteremia, starting
   micafungin
   - will continue vanco/cefepime/flagyl/micafungin for now
   - f/u blood cx results
   - vascular recs regarding possible debridement
   .
   # OSA:
   -          intubated at this time.
   -          .
   # Tophaceous Gout: Diffuse tophi on exam.
   - continue renally adjusted dose of allopurinol
   - holding home colchicine for now
   - stress dose steroids as above, consider wean
   .
   # Hypothyroidism: continuing home dose, TSH normal, total T4 low, but
   pt has been on amio (unsure if level was checked before or after it was
   started)
    continue current dose
   - consider rechecking thyroid labs
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2177-2-27**] 04:00 PM 30 mL/hour
   Glycemic Control:  Lantus + humalog sliding scale
   Lines:
   Arterial Line - [**2177-2-23**] 09:02 PM
   Multi Lumen - [**2177-2-27**] 05:30 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: IV PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2177-03-01 07:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - pH 7.28 to 7.30 on serial ABGs, metabolic acidosis remained stable
   throughout day; anion gap 12 to 14, relatively stable; lactate not
   elevated, renal fxn improving, thus no clear cause for AG metabolic
   acidosis
   - white count elevated to 15.8 from 9, presumed secondary to steroids
   - seen by vascular service, legs examined, not felt to be infected;
   recommended for elevation and ACE compression wraps; no surgical
   intervention
   - renal recommended for holding off diuresis, maintaining CVP 20-25
   - in afternoon, attempted diuresis with Lasix gtt and one-time dose of
   metolazone 5; UOP did not increase but remained around 20 to 30 cc per
   hour; CVP meanwhile decreased to [**10-18**] and thus Lasix drip was stopped
   around 10 PM
   - heparin drip held (for at least one week per Dr. [**Last Name (STitle) **]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2177-2-28**] 09:00 AM
   Micafungin - [**2177-2-28**] 12:10 PM
   Cefipime - [**2177-2-28**] 10:00 PM
   Metronidazole - [**2177-3-1**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Fentanyl - [**2177-2-28**] 10:45 AM
   Pantoprazole (Protonix) - [**2177-2-28**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-3-1**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 82 (63 - 82) bpm
   BP: 114/56(75) {90/36(55) - 142/56(81)} mmHg
   RR: 24 (17 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 121.3 kg (admission): 112 kg
   Height: 73 Inch
    CVP: 13 (12 - 19)mmHg
   Total In:
                                                                  1,608 mL
                                                                    370 mL
   PO:
   TF:
                                                                    739 mL
                                                                    193 mL
   IVF:
                                                                    779 mL
                                                                    117 mL
   Blood products:
   Total out:
                                                                  1,150 mL
                                                                    150 mL
   Urine:
                                                                  1,150 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    458 mL
                                                                    220 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.39/31/145/17/-4
   Ve: 13.5 L/min
   PaO2 / FiO2: 363
   Physical Examination
   GEN: Intubated. Turns towards voice, Does not follow commands. Right
   hand more edematous today
   HEENT: NC/AT.
   CV: Some ectopy, Loud S2; No m/r/g appreciated.
   LUNGS:Clear anteriorly, decreased BS at L Base
   ABD: Soft, NTND. No HSM or tenderness.
   EXTREMITIES: Anasarca, multiple tophi on fingers around small joints,
   slightly enlarged eccymoses on torso/extremities
   SKIN: stasis dermatitis, dressings covering leg ulcers, open toe ulcers
   with black eschar.
   Labs / Radiology
   100 K/uL
   8.6 g/dL
   184 mg/dL
   2.2 mg/dL
   17 mEq/L
   3.8 mEq/L
   125 mg/dL
   110 mEq/L
   138 mEq/L
   25.6 %
   15.9 K/uL
        [image002.jpg]
                             [**2177-2-28**]  01:27 AM
                             [**2177-2-28**]  04:14 AM
                             [**2177-2-28**]  04:27 AM
                             [**2177-2-28**]  03:31 PM
                             [**2177-2-28**]  04:54 PM
                             [**2177-2-28**]  05:50 PM
                             [**2177-2-28**]  07:40 PM
                             [**2177-2-28**]  11:52 PM
                             [**2177-3-1**]  04:47 AM
                             [**2177-3-1**]  05:12 AM
   WBC
   9.6
   15.9
   15.9
   Hct
   26.3
   27.4
   25.6
   Plt
   65
   91
   100
   Cr
   2.1
   2.2
   2.2
   TCO2
   17
   17
   16
   16
   15
   19
   19
   Glucose
   121
   223
   184
   Other labs: PT / PTT / INR:13.6/26.4/1.2, ALT / AST:19/20, Alk Phos / T
   Bili:102/0.9, Differential-Neuts:96.5 %, Lymph:1.7 %, Mono:1.3 %,
   Eos:0.2 %, D-dimer:238 ng/mL, Fibrinogen:588 mg/dL, Lactic Acid:0.9
   mmol/L, Albumin:2.5 g/dL, LDH:185 IU/L, Ca++:8.1 mg/dL, Mg++:2.6 mg/dL,
   PO4:4.8 mg/dL
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE II
 HYPOTHYROIDISM
 ULCERATIVE COLITIS
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 EPISTAXIS (NOSEBLEED)
 .H/O ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 .H/O RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC
   KIDNEY DISEASE)
   66 yo M with systolic CHF, OSA/Pulm HTN, CKD, DMII, severe PVD c/b
   multiple ulcerations presenting with massive fluid overload and acute
   on chronic renal failure in setting of a fib.  Now, in respiratory
   failure s/p intubation and with hypotension requiring pressors.
   Metabolic acidosis: hypoxemia [**1-7**] shock/heart failure, infection.
   Trend lactate
   -adjust vent settings accordingly maximize blowing off CO2 respiration
   -GFS avoid hypoglycemia
   # Hypotension: Multifactorial, with contribution from hypovolemia
   (bleeding, diuresis), distributive (given yeast in blood), cardiogenic
   (given CHF, frequent ectopy). Improved with resolution of bleeding and
   cardioversion to sinus rhythm. Currently on low-dose norepinephrine +
   vasopressin
   -continue vanc/cefepime/flagyl, plus micafungin
   -attempt to wean pressors
   -attempt to w ean PEEP
   -goal CVP 20-24
   .
   # Yeast bacteremia: Noted on positive blood culture. Most likely source
   is central line (now resited). Goal CVP 20-24.
   -continue micafungin
   -f/u ID recs
   -f/u micro data
   -consult ophtho to evaluate for [**Female First Name (un) **] endophthalmitis
   ,
   # Coagulopathy: Improved, with INR now 1.8.
   -trend CBC, INR, PTT
   .
   # Acute on chronic renal failure: Renal failure likely prerenal. Now
   improved with better forward flow.
   -f/u renal recs
   -trend lytes [**Hospital1 **]
   .
   # LE ulcers: Vascular has been following, and may recommend surgical
   debridement in future. On broad spectrum antibiotics.
   - continue vanco/cefepime/flagyl/micafungin
   - f/u blood cx results
   - per vascular no debridement needed.
   - consult podiatry
   .
   # Tophaceous Gout: Diffuse tophi on exam.
   - continue renally adjusted dose of allopurinol
   - holding home colchicine for now
   .
   # Ulcerative colitis: On chronic steroids.
   - stress dose steroids in setting of critical illness
   .
   # Hypothyroidism: continuing home dose of levothyoxine, TSH normal,
   total T4 low, but pt has been on amio (unsure if level was checked
   before or after it was started)
   - continue current dose
   ICU Care
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2177-3-1**] 01:00 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2177-2-23**] 09:02 PM
   Multi Lumen - [**2177-2-27**] 05:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 7921**].
   I would add the following remarks:
   History
   Remains intubated
   Medical Decision Making
   Continue antibiotics and antimicrobial
   Ventilatory support
   Above discussed extensively with family member, next of [**Doctor First Name **] or health
   care proxy.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 3139**] [**Last Name (NamePattern1) 5279**], MD
   on:[**2177-3-1**] 12:07 ------

2177-03-02 06:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2177-3-1**] 10:00 PM
   Overnight Events:
   - no new positive culture data
   - gave 1 unit of PRBCs and 500 cc 5% albumin; CVP responded a little
   bit, UOP [**First Name11 (Name Pattern1) **] [**Initial (NamePattern1) **] [**Last Name (NamePattern1) **] bit
   - crit rose appropriately after blood
   - decreased stress dose steroids
   - lowered steroid dose
   - renal: holding off until after infection for CVVH, said that we could
   consider bicarb
   - later in the evening, UOP trailed off and CVP dropped down - went
   back on small dose of norepi
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2177-2-28**] 09:00 AM
   Micafungin - [**2177-3-1**] 12:00 PM
   Cefipime - [**2177-3-1**] 10:00 PM
   Metronidazole - [**2177-3-2**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Norepinephrine - 0.02 mcg/Kg/min
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Fentanyl - [**2177-3-1**] 09:30 AM
   Pantoprazole (Protonix) - [**2177-3-1**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2177-3-1**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-3-2**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.2
   HR: 67 (67 - 86) bpm
   BP: 121/46(68) {83/43(61) - 141/62(84)} mmHg
   RR: 24 (13 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 123.1 kg (admission): 112 kg
   Height: 73 Inch
    CVP: 13 (11 - 17)mmHg
   Total In:
                                                                  2,169 mL
                                                                    239 mL
   PO:
   TF:
                                                                    719 mL
                                                                    159 mL
   IVF:
                                                                    330 mL
                                                                     20 mL
   Blood products:
                                                                    850 mL
   Total out:
                                                                    835 mL
                                                                    105 mL
   Urine:
                                                                    835 mL
                                                                    105 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,334 mL
                                                                    134 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   Compliance: 58.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.39/32/152/18/-4
   Ve: 13.4 L/min
   PaO2 / FiO2: 380
   Physical Examination
   GEN: Intubated. Opens eyes and nods to verbal stimuli.
   HEENT: NC/AT.
   CV: Faint HS. No m/r/g appreciated.
   LUNGS: Clear anteriorly.
   ABD: Soft, NTND. No HSM or tenderness.
   EXTREMITIES: Pitting edema in all 4 extremities. Large ecchymosis
   present on right arm. All 4 extremities wrapped with ACE wraps.
   NEURO: Opens eyes and nods to verbal stimuli. Squeezes both hands on
   command. Does not move toes to command.
   Labs / Radiology
   47 K/uL
   8.8 g/dL
   226 mg/dL
   2.0 mg/dL
   18 mEq/L
   4.0 mEq/L
   124 mg/dL
   111 mEq/L
   140 mEq/L
   26.5 %
   8.8 K/uL
        [image002.jpg]
                             [**2177-2-28**]  04:54 PM
                             [**2177-2-28**]  05:50 PM
                             [**2177-2-28**]  07:40 PM
                             [**2177-2-28**]  11:52 PM
                             [**2177-3-1**]  04:47 AM
                             [**2177-3-1**]  05:12 AM
                             [**2177-3-1**]  01:43 PM
                             [**2177-3-1**]  06:48 PM
                             [**2177-3-2**]  04:35 AM
                             [**2177-3-2**]  04:52 AM
   WBC
   15.9
   15.9
   8.8
   Hct
   27.4
   25.6
   28.6
   26.5
   Plt
   91
   100
   47
   Cr
   2.2
   2.2
   2.0
   TCO2
   16
   15
   19
   19
   18
   20
   Glucose
   223
   184
   226
   Other labs: PT / PTT / INR:14.0/28.8/1.2, ALT / AST:19/20, Alk Phos / T
   Bili:102/0.9, Differential-Neuts:96.5 %, Lymph:1.7 %, Mono:1.3 %,
   Eos:0.2 %, D-dimer:238 ng/mL, Fibrinogen:588 mg/dL, Lactic Acid:0.9
   mmol/L, Albumin:2.5 g/dL, LDH:185 IU/L, Ca++:8.2 mg/dL, Mg++:2.6 mg/dL,
   PO4:4.0 mg/dL
   Assessment and Plan
   66 yo M with systolic CHF, OSA/Pulm HTN, CKD, DMII, severe PVD c/b
   multiple ulcerations presenting with massive fluid overload and acute
   on chronic renal failure in setting of a fib.  Now, in respiratory
   failure s/p intubation and with hypotension requiring pressors.
   # Hypotension: Multiple possible etiologies, including hypovolemia
   (bleeding, diuresis), distributive (given yeast in blood), cardiogenic
   (given CHF, frequent ectopy). Improved with resolution of bleeding and
   cardioversion to sinus rhythm. Likely primarily cardiogenic in nature.
   Currently on low-dose norepi. Yesterday, pressor was weaned off;
   however, after, pt
s UOP was noted to trend down and pressor was
   restarted.
   -continue vanc/cefepime/flagyl, plus micafungin
   -attempt to wean pressors
   -goal CVP in upper teens to low 20
s, as that is when pt seems to have
   better UOP
   -consider giving colloid with Lasix to improve diuresis
   .
   # Volume Overload: Likely related to poor forward flow in the setting
   of pt
s heart failure. As above, pt had improved UOP yesterday in the
   setting of a slightly higher CVP, after receiving blood and albumin.
   However, pressors were weaned down and UOP dropped off. Now, pt back on
   norepi.
   - consider giving blood/albumin, followed by Lasix to see if this will
   improve UOP
   - can also consider inotrope this evening if urine output does not
   improve
   - possible trial of CVVH tomorrow, will d/w renal
   .
   # Yeast bacteremia: Noted on positive blood culture. Most likely source
   is central line (now resited).
   -continue micafungin
   -f/u ID recs
   -f/u micro data
   -consult ophtho next week to evaluate for [**Female First Name (un) **] endophthalmitis
   ,
   # Coagulopathy: Improved, with INR now 1.2.
   -trend CBC, INR, PTT
   -holding off on further anticoagulation, consider pt
s recent bleeding
   problems on heparin gtt
   .
   # Acute on chronic renal failure: Renal failure likely prerenal. Cr
   slightly improved overnight in the setting of increased UOP.
   -f/u renal recs
   -trend lytes [**Hospital1 **]
   -consider CVVH tomorrow, as above
   .
   # LE ulcers: Vascular has been following, and may recommend surgical
   debridement in future. On broad spectrum antibiotics.
   - continue vanco/cefepime/flagyl
   - f/u blood cx results
   - per vascular no debridement needed.
   .
   # Tophaceous Gout: Diffuse tophi on exam.
   - continue renally adjusted dose of allopurinol
   - holding home colchicine for now
   .
   # Ulcerative colitis: On chronic steroids.
   - stress dose steroids in setting of critical illness
   - will further taper steroids tomorrow
   .
   # Hypothyroidism: continuing home dose of levothyoxine, TSH normal,
   total T4 low, but pt has been on amio (unsure if level was checked
   before or after it was started)
   - continue current dose
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2177-3-2**] 12:00 AM 25 mL/hour
   Glycemic Control:  Comments: ISS
   Lines:
   Arterial Line - [**2177-2-23**] 09:02 PM
   Multi Lumen - [**2177-2-27**] 05:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2177-03-03 07:44:00 Physician Resident Progress Note
Chief Complaint: Reason for admission: ulcer debridement
   Reason for transfer to CCU: HF and afib
   24 Hour Events:
 SPUTUM CULTURE - At [**2177-3-2**] 11:00 AM
 BLOOD CULTURED - At [**2177-3-2**] 04:49 PM
 BLOOD CULTURED - At [**2177-3-2**] 05:58 PM
   [**2177-3-2**]
   - changed PPI to PO
   - started insulin gtt for hyperglycemia
   - transfused 1 units PRBCs
   - attempted diuresis with Lasix + Diuril
   - renal recs: If diuresis does not work, CVVH is unlikely to succeed.
   Could consider inotrope-assisted diuresis.
   - thick secretions (?tube feeds) suctioned from ET tube. Tube feeds
   stopped for night
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2177-3-2**] 08:00 AM
   Micafungin - [**2177-3-2**] 12:00 PM
   Cefipime - [**2177-3-2**] 10:00 PM
   Metronidazole - [**2177-3-3**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Furosemide (Lasix) - 20 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2177-3-2**] 08:15 AM
   Heparin Sodium (Prophylaxis) - [**2177-3-2**] 08:00 PM
   Furosemide (Lasix) - [**2177-3-2**] 08:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-3-3**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.9
   HR: 84 (68 - 91) bpm
   BP: 110/61(78) {98/46(67) - 139/73(93)} mmHg
   RR: 24 (19 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 127.9 kg (admission): 112 kg
   Height: 73 Inch
    CVP: 15 (11 - 25)mmHg
   Total In:
                                                                  1,965 mL
                                                                    338 mL
   PO:
   TF:
                                                                    730 mL
   IVF:
                                                                    615 mL
                                                                    278 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    990 mL
                                                                    835 mL
   Urine:
                                                                    810 mL
                                                                    690 mL
   NG:
   Stool:
                                                                    145 mL
   Drains:
   Balance:
                                                                    975 mL
                                                                   -497 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI: 27
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 19 cmH2O
   Compliance: 67.9 cmH2O/mL
   SpO2: 100%
   ABG: 7.44/32/173/18/0
   Ve: 14 L/min
   PaO2 / FiO2: 433
   Physical Examination
   GEN: Intubated. Opens eyes and nods to verbal stimuli.
   HEENT: NC/AT.
   CV: Faint HS. No m/r/g appreciated.
   LUNGS: Clear anteriorly.
   ABD: Soft, NTND. No HSM or tenderness.
   EXTREMITIES: Pitting edema in all 4 extremities. Large ecchymosis
   present on right arm. All 4 extremities wrapped with ACE wraps.
   NEURO: Opens eyes and nods to verbal stimuli. Yesterday was squeezing
   both hands on command, but today, even with fent./versed stopped, does
   not move fingers or toes to command. Does not move toes to command
   Labs / Radiology
   43 K/uL
   9.3 g/dL
   86 mg/dL
   2.0 mg/dL
   18 mEq/L
   3.8 mEq/L
   128 mg/dL
   112 mEq/L
   141 mEq/L
   28.4 %
   7.1 K/uL
        [image002.jpg]
                             [**2177-3-1**]  05:12 AM
                             [**2177-3-1**]  01:43 PM
                             [**2177-3-1**]  06:48 PM
                             [**2177-3-2**]  04:35 AM
                             [**2177-3-2**]  04:52 AM
                             [**2177-3-2**]  04:27 PM
                             [**2177-3-2**]  04:30 PM
                             [**2177-3-2**]  11:23 PM
                             [**2177-3-3**]  04:12 AM
                             [**2177-3-3**]  04:19 AM
   WBC
   8.8
   7.5
   7.1
   Hct
   28.6
   26.5
   30.3
   28.4
   Plt
   47
   37
   40
   43
   Cr
   2.0
   2.0
   2.0
   TCO2
   19
   18
   20
   22
   22
   Glucose
   226
   212
   86
   Other labs: PT / PTT / INR:14.5/28.2/1.3, ALT / AST:19/20, Alk Phos / T
   Bili:102/0.9, Differential-Neuts:96.5 %, Lymph:1.7 %, Mono:1.3 %,
   Eos:0.2 %, D-dimer:238 ng/mL, Fibrinogen:588 mg/dL, Lactic Acid:0.9
   mmol/L, Albumin:2.5 g/dL, LDH:185 IU/L, Ca++:8.3 mg/dL, Mg++:2.6 mg/dL,
   PO4:3.5 mg/dL
   Fluid analysis / Other labs: .
   Imaging: PORTABLE CHEST OF [**2177-3-2**]
   COMPARISON: [**2177-3-1**].
   INDICATION: Pneumonia and heart failure.
   FINDINGS: Support and monitoring devices are unchanged in position.
   Cardiac
   silhouette remains enlarged, and there is persistent congestive heart
   failure.
   More confluent areas of opacity in the right upper and both lower lobes
   probably represent pneumonia, and appear slightly worse in the right
   upper
   lobe and slightly better in the left lower lobe. Moderate right and
   small
   left pleural effusion are unchanged
   ------------
   PORTABLE CHEST [**3-3**]:
   Two films were taken. One prior to and another after trial of reduced
   pressure support. The right lung is white out with the appearance of
   edema. The right lung appears well inflated, the left similar.
   Microbiology: [**Female First Name (un) **] in blood culture from [**2-25**]. No [**Last Name (un) 3587**] yet in
   subsequent, including two mycolytic from [**2-27**] without growth.
   ECG:
   Assessment and Plan
   66 yo M with systolic CHF, OSA/Pulm HTN, CKD, DMII, severe PVD c/b
   multiple ulcerations presenting with massive fluid overload and acute
   on chronic renal failure in setting of a fib.  Now, in respiratory
   failure s/p intubation and with hypotension requiring pressors.
   # Volume Overload
   Likely related to poor forward flow in the setting of pt
s heart
   failure. As above, pt had improved UOP yesterday in the setting of a
   slightly higher CVP, after receiving blood and albumin. However,
   pressors were weaned down and UOP dropped off. Norepi  off now.
   - Attempt continued diuresis with Lasix given some progress since
   midnight.
   - Failing diuretic goals, give albumin or blood
   - Failing those products, consider restarting pressors
   - possible trial of CVVH tomorrow, will d/w renal
   # Hypotension: Multiple possible etiologies, including hypovolemia
   (bleeding, diuresis), distributive (given yeast in blood), cardiogenic
   (given CHF, frequent ectopy). Improved with resolution of bleeding and
   cardioversion to sinus rhythm. Likely primarily cardiogenic in nature.
   Currently on low-dose norepi. Yesterday, pressor was weaned off;
   however, after, pt
s UOP was noted to trend down and pressor was
   restarted.
   - Septic
 appreciate ID input
   - continue vanc/cefepime/flagyl, plus micafungin (likely to fluconazole
   today)
   - goal CVP in upper teens to low 20
s, as that is when pt seems to have
   better UOP, but  this will need to be balanced with overload/diuresis
   (likely can increase CVP as well as facilitate diuresis and treat
   anasarca with albumin/blood)
 see above.
   # Respiratory Faliure
   Per CXR, likely large component of edema given CXR findings after
   reducing pressure support. Inspiratory effort is also poor at present,
   which is unexplained. Obesity and sedation likely contributors. Lung
   compliance in 40s and resistance acceptable. Therefore neuromuscular.
   [**Month (only) 11**] be due to sedation and low bicarb with reduced drive. Needs longer
   trials of weaned pressure and further diuresis.
   # Yeast bacteremia
   Noted on positive blood culture. Most likely source is central line
   (now resited).
   -continue micafungin (converting to fluconazole)
   -D/w ID, chance of fungal pneumonia
   -f/u ID recs
   -f/u micro data
   -consult ophtho to evaluate for [**Female First Name (un) **] endophthalmitis
   # Coagulopathy: Improved, with INR now 1.2.
   -trend CBC, INR, PTT
   -holding off on further anticoagulation, consider pt
s recent bleeding
   problems on heparin gtt
   # Acute on chronic renal failure: Renal failure likely prerenal. Cr
   slightly improved overnight in the setting of increased UOP.
   -f/u renal recs
   -trend lytes [**Hospital1 **]
   -consider CVVH tomorrow, as above
   # LE ulcers: Vascular has been following, and may recommend surgical
   debridement in future. On broad spectrum antibiotics.
   - continue vanco/cefepime/flagyl
   - f/u blood cx results
   - per vascular no debridement needed.
   # Tophaceous Gout: Diffuse tophi on exam.
   - continue renally adjusted dose of allopurinol
   - holding home colchicine for now
   # Ulcerative colitis: On chronic steroids.
   - stress dose steroids in setting of critical illness
   - Halve dose of steroids today
   # Hypothyroidism: continuing home dose of levothyoxine, TSH normal,
   total T4 low, but pt has been on amio (unsure if level was checked
   before or after it was started)
   - continue current dose
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2177-2-23**] 09:02 PM
   Multi Lumen - [**2177-2-27**] 05:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   TITLE: CCU Attending Progress Note
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr. [**Last Name (STitle) 10339**].
   I would add the following remarks:
   History
   Remains intubated.  A combination of furosemide and hydrodiuril had
   resulted in 30 cc/hr urine output.
   Renal is not enthusiastic about CVVH in the absence of success with
   diuresis with diuretics.
   Tricuspid regurgitation may remain an impediment to diuresis.
   Medical Decision Making
   Continue antibiotics and antimicrobial
   Consider ionotropic support with IV lasix to improve diuresis.
   Total time spent on patient care: 30 minutes of critical care time
   ------ Protected Section Addendum Entered By:[**Name (NI) 3139**] [**Last Name (NamePattern1) 5279**], MD
   on:[**2177-3-3**] 20:49 ------

2177-03-04 07:10:00 Physician Attending Progress Note
TITLE:
   Chief Complaint:
   HPI:
   24 Hour Events:
   - ID requesting deep tissue cultures of foot ulcers, vascular contact[**Name (NI) **]
   podiatry performed debridement and deep tissue culture
   - started reglan for increased TF residuals
   - Started ISS (now insulin gtt off)
   - Didn't tolerate PSV 5/5 yesterday morning, therefore back to AC.
   Pulmonary edema worsened in this context.  Inspiratory effort around
   -15 cmH2O
   -  likely [**1-7**] steroids, intubation, deconditioning. Appears to be weak
   somatically also.
   - Changed fluconazole from 200 mg IV Q24H to 400 mg IV Q24H (per ID and
   pharm)
   - Given 500 mg Diuril
   - Then 5 mg metolazone
   - Then 25 g albumin (only ~ net -500 cc)
   - tried on pressure support [**11-9**] and tolerated for 1/2 hour, put back
   on assist control
   -This am inspiratory effort around -15 cmH2O
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2177-3-2**] 08:00 AM
   Micafungin - [**2177-3-2**] 12:00 PM
   Fluconazole - [**2177-3-3**] 12:00 PM
   Cefipime - [**2177-3-3**] 10:30 PM
   Metronidazole - [**2177-3-4**] 12:00 AM
   Infusions:
   Furosemide (Lasix) - 20 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-3-3**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-3-4**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 86 (74 - 99) bpm
   BP: 137/56(80) {105/45(63) - 144/66(91)} mmHg
   RR: 23 (16 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 127.9 kg (admission): 112 kg
   Height: 73 Inch
   CVP: 18 (13 - 25)mmHg
   Total In:
                                                                  1,743 mL
                                                                    202 mL
   PO:
   TF:
                                                                    533 mL
                                                                     63 mL
   IVF:
                                                                    770 mL
                                                                     29 mL
   Blood products:
                                                                     50 mL
                                                                     50 mL
   Total out:
                                                                  1,563 mL
                                                                    327 mL
   Urine:
                                                                  1,418 mL
                                                                    327 mL
   NG:
   Stool:
                                                                    145 mL
   Drains:
   Balance:
                                                                    180 mL
                                                                   -125 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 523 (398 - 523) mL
   PS : 12 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 20 cmH2O
   Compliance: 59.8 cmH2O/mL
   SpO2: 98%
   ABG: 7.31/36/112/20/-7
   Ve: 14.1 L/min
   PaO2 / FiO2: 280
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.9 g/dL
   48 K/uL
   215 mg/dL
   2.2 mg/dL
   20 mEq/L
   3.7 mEq/L
   131 mg/dL
   110 mEq/L
   141 mEq/L
   31.5 %
   6.7 K/uL
        [image002.jpg]
                             [**2177-3-2**]  04:30 PM
                             [**2177-3-2**]  11:23 PM
                             [**2177-3-3**]  04:12 AM
                             [**2177-3-3**]  04:19 AM
                             [**2177-3-3**]  10:04 AM
                             [**2177-3-3**]  12:23 PM
                             [**2177-3-3**]  01:51 PM
                             [**2177-3-3**]  04:22 PM
                             [**2177-3-4**]  04:57 AM
                             [**2177-3-4**]  05:09 AM
   WBC
   7.1
   6.7
   Hct
   28.4
   31.5
   Plt
   40
   43
   48
   Cr
   2.0
   2.1
   2.2
   TCO2
   22
   22
   20
   20
   16
   19
   Glucose
   86
   137
   215
   Other labs: PT / PTT / INR:15.0/27.8/1.3, ALT / AST:18/29, Alk Phos / T
   Bili:220/1.2, Differential-Neuts:96.5 %, Lymph:1.7 %, Mono:1.3 %,
   Eos:0.2 %, D-dimer:238 ng/mL, Fibrinogen:588 mg/dL, Lactic Acid:0.9
   mmol/L, Albumin:2.5 g/dL, LDH:221 IU/L, Ca++:8.6 mg/dL, Mg++:2.7 mg/dL,
   PO4:4.2 mg/dL
   Assessment and Plan
   Assessment and Plan
   66 yo M with systolic CHF, OSA/Pulm HTN, CKD, DMII, severe PVD c/b
   multiple ulcerations presenting with massive fluid overload and acute
   on chronic renal failure in setting of a fib.  Now, in respiratory
   failure s/p intubation and with hypotension requiring pressors.
   # Volume Overload
   Likely related to poor forward flow in the setting of pt
s heart
   failure. As above, pt had improved UOP yesterday in the setting of a
   slightly higher CVP, after receiving blood and albumin. However,
   pressors were weaned down and UOP dropped off. Norepi  off now.
   - Attempt continued diuresis with Lasix given some progress since
   midnight.
   - Failing diuretic goals, give albumin or blood
   - Failing those products, consider restarting pressors
   - possible trial of CVVH tomorrow, will d/w renal
   Remains intubated.  A combination of furosemide and hydrodiuril had
   resulted in 30 cc/hr urine output.
   Renal is not enthusiastic about CVVH in the absence of success with
   diuresis with diuretics.
   Tricuspid regurgitation may remain an impediment to diuresis.
   Continue antibiotics and antimicrobial
   Consider ionotropic support with IV lasix to improve diuresis.
   # Hypotension: Multiple possible etiologies, including hypovolemia
   (bleeding, diuresis), distributive (given yeast in blood), cardiogenic
   (given CHF, frequent ectopy). Improved with resolution of bleeding and
   cardioversion to sinus rhythm. Likely primarily cardiogenic in nature.
   Currently on low-dose norepi. Yesterday, pressor was weaned off;
   however, after, pt
s UOP was noted to trend down and pressor was
   restarted.
   - Septic
 appreciate ID input
   - continue vanc/cefepime/flagyl, plus micafungin (likely to fluconazole
   today)
   - goal CVP in upper teens to low 20
s, as that is when pt seems to have
   better UOP, but  this will need to be balanced with overload/diuresis
   (likely can increase CVP as well as facilitate diuresis and treat
   anasarca with albumin/blood)
 see above.
   # Respiratory Faliure
   Per CXR, likely large component of edema given CXR findings after
   reducing pressure support. Inspiratory effort is also poor at present,
   which is unexplained. Obesity and sedation likely contributors. Lung
   compliance in 40s and resistance acceptable. Therefore neuromuscular.
   [**Month (only) 11**] be due to sedation and low bicarb with reduced drive. Needs longer
   trials of weaned pressure and further diuresis.
   # Yeast bacteremia
   Noted on positive blood culture. Most likely source is central line
   (now resited).
   -continue micafungin (converting to fluconazole)
   -D/w ID, chance of fungal pneumonia
   -f/u ID recs
   -f/u micro data
   -consult ophtho to evaluate for [**Female First Name (un) **] endophthalmitis
   # Coagulopathy: Improved, with INR now 1.2.
   -trend CBC, INR, PTT
   -holding off on further anticoagulation, consider pt
s recent bleeding
   problems on heparin gtt
   # Acute on chronic renal failure: Renal failure likely prerenal. Cr
   slightly improved overnight in the setting of increased UOP.
   -f/u renal recs
   -trend lytes [**Hospital1 **]
   -consider CVVH tomorrow, as above
   # LE ulcers: Vascular has been following, and may recommend surgical
   debridement in future. On broad spectrum antibiotics.
   - continue vanco/cefepime/flagyl
   - f/u blood cx results
   - per vascular no debridement needed.
   # Tophaceous Gout: Diffuse tophi on exam.
   - continue renally adjusted dose of allopurinol
   - holding home colchicine for now
   # Ulcerative colitis: On chronic steroids.
   - stress dose steroids in setting of critical illness
   - Halve dose of steroids today
   # Hypothyroidism: continuing home dose of levothyoxine, TSH normal,
   total T4 low, but pt has been on amio (unsure if level was checked
   before or after it was started)
   - continue current dose
 BACTEREMIA
 DIABETES MELLITUS (DM), TYPE II
 HYPOTHYROIDISM
 ULCERATIVE COLITIS
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 EPISTAXIS (NOSEBLEED)
 .H/O ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC
   KIDNEY DISEASE)
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2177-3-3**] 10:54 PM 25 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2177-2-23**] 09:02 PM
   Multi Lumen - [**2177-2-27**] 05:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2177-03-05 07:27:00 Physician Resident Progress Note
Chief Complaint: HF and a fib
   24 Hour Events:
   3/30-31/10
   -Per ID drop next vanc dose to 500 mg and check trough before the
   fourth dose after this
   - started on milrenone
   - had CVP around 13 so given albumin 25%
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2177-3-2**] 12:00 PM
   Metronidazole - [**2177-3-4**] 12:00 AM
   Vancomycin - [**2177-3-4**] 08:30 AM
   Fluconazole - [**2177-3-4**] 01:00 PM
   Cefipime - [**2177-3-4**] 10:15 PM
   Infusions:
   Furosemide (Lasix) - 20 mg/hour
   Milrinone - 0.33 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-3-4**] 07:30 PM
   Fentanyl - [**2177-3-5**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-3-5**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.2
C (97.2
   HR: 90 (79 - 97) bpm
   BP: 108/41(61) {108/41(61) - 154/72(97)} mmHg
   RR: 26 (20 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 127.9 kg (admission): 112 kg
   Height: 73 Inch
    CVP: 15 (13 - 23)mmHg
   Total In:
                                                                  1,454 mL
                                                                    656 mL
   PO:
   TF:
                                                                    529 mL
                                                                    325 mL
   IVF:
                                                                    710 mL
                                                                    112 mL
   Blood products:
                                                                     50 mL
                                                                    200 mL
   Total out:
                                                                  1,006 mL
                                                                    408 mL
   Urine:
                                                                  1,006 mL
                                                                    208 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    448 mL
                                                                    248 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.40/31/115/18/-3
   Ve: 13.7 L/min
   PaO2 / FiO2: 287
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   51 K/uL
   8.2 g/dL
   309 mg/dL
   2.3 mg/dL
   18 mEq/L
   3.4 mEq/L
   130 mg/dL
   110 mEq/L
   141 mEq/L
   24.0 %
   4.8 K/uL
        [image002.jpg]
                             [**2177-3-3**]  10:04 AM
                             [**2177-3-3**]  12:23 PM
                             [**2177-3-3**]  01:51 PM
                             [**2177-3-3**]  04:22 PM
                             [**2177-3-4**]  04:57 AM
                             [**2177-3-4**]  05:09 AM
                             [**2177-3-4**]  07:38 PM
                             [**2177-3-5**]  03:56 AM
                             [**2177-3-5**]  04:05 AM
                             [**2177-3-5**]  04:50 AM
   WBC
   6.7
   4.8
   Hct
   31.5
   24.7
   24.0
   Plt
   48
   51
   Cr
   2.1
   2.2
   2.1
   2.3
   TCO2
   20
   20
   16
   19
   20
   Glucose
   137
   215
   309
   Other labs: PT / PTT / INR:15.8/33.1/1.4, ALT / AST:18/29, Alk Phos / T
   Bili:220/1.2, Differential-Neuts:96.5 %, Lymph:1.7 %, Mono:1.3 %,
   Eos:0.2 %, D-dimer:238 ng/mL, Fibrinogen:588 mg/dL, Lactic Acid:1.0
   mmol/L, Albumin:2.5 g/dL, LDH:221 IU/L, Ca++:8.4 mg/dL, Mg++:2.5 mg/dL,
   PO4:3.6 mg/dL
   Imaging: CXR AP [**2177-3-4**]
   IMPRESSION: Slightly improved right lung opacities, most consistent
   with
   pneumonia. Bilateral effusions and waxing-[**Doctor Last Name 282**] pattern also suggest
   superimposed edema.
   Microbiology: [**2177-3-3**] 3:20 pm TISSUE      Source: R calcaneus.
      GRAM STAIN (Final [**2177-3-3**]):
         1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
         1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         REPORTED BY PHONE TO [**Last Name (LF) **], [**First Name3 (LF) **] @ [**2177**] ON [**2177-3-3**].
   [**2177-3-3**]  TISSUE GRAM STAIN-FINAL; TISSUE-PRELIMINARY; ANAEROBIC
   CULTURE-PRELIMINARY; FUNGAL CULTURE-PRELIMINARY INPATIENT
   [**2177-3-3**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2177-3-2**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2177-3-2**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2177-3-2**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2177-3-2**]  BLOOD CULTURE ( MYCO/F LYTIC BOTTLE) BLOOD/FUNGAL
   CULTURE-PENDING; BLOOD/AFB CULTURE-PENDING INPATIENT
   [**2177-3-2**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL {YEAST,
   YEAST}; FUNGAL CULTURE-PRELIMINARY {YEAST} INPATIENT
   [**2177-3-1**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [**2177-3-1**]  BLOOD CULTURE ( MYCO/F LYTIC BOTTLE) BLOOD/FUNGAL
   CULTURE-PRELIMINARY; BLOOD/AFB CULTURE-PRELIMINARY INPATIENT
   [**2177-3-1**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2177-2-28**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2177-2-28**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2177-2-28**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2177-2-28**]  URINE URINE CULTURE-FINAL INPATIENT
   Assessment and Plan
 ALTERATION IN NUTRITION
 BACTEREMIA
 DIABETES MELLITUS (DM), TYPE II
 HYPOTHYROIDISM
 ULCERATIVE COLITIS
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 EPISTAXIS (NOSEBLEED)
 .H/O ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC
   KIDNEY DISEASE)
   66 yo M with systolic CHF, OSA/Pulm HTN, CKD, DMII, severe PVD c/b
   multiple ulcerations presenting with massive fluid overload and acute
   on chronic renal failure in setting of a fib.  Now, in respiratory
   failure s/p intubation and with hypotension off pressors.
   # Volume Overload
   Likely related to poor forward flow in the setting of pt
s heart
   failure. As above, pt had improved UOP in the setting of a slightly
   higher CVP, after receiving blood and albumin. However, pressors were
   weaned down and UOP dropped off. Norepi off now.  Attempted diuresis
   with Lasix and albumin showed initial progress.  A combination of
   furosemide and hydrdiuril resulted in 30 cc/hr urine output initially
   but this dropped off.  Restarted milrinone along with IV lasix, no
   significant improvement in output, still positive.
   - Attending will discuss with renal possible trial of CVVH
   - Continue pressor for now with lasix
   - Consider transfusion of 1 unit PRBCs to help maintain CVP in low 20s
   # Hypotension: Resolved.  Multiple possible etiologies, including
   hypovolemia (bleeding, diuresis), distributive (given yeast in blood),
   cardiogenic (given CHF, frequent ectopy). Improved with resolution of
   bleeding and cardioversion to sinus rhythm. Likely primarily
   cardiogenic in nature.
   - continue vanc/cefepime/flagyl, plus increased fluconazole from 200 mg
   IV Q24H to 400 mg IV Q24H (per ID and pharm)
   - goal CVP in upper teens to low 20
s, as that is when pt seems to have
   better UOP, but  this will need to be balanced with overload/diuresis
   (likely can increase CVP as well as facilitate diuresis and treat
   anasarca with albumin/blood)
 see above.
   # Respiratory Faliure
   Per CXR, likely large component of edema given CXR findings after
   reducing pressure support. This suggests pt is dependent on positive
   pressure to keep fluid out of lungs. Inspiratory effort is also poor at
   present, which is unexplained. Obesity and sedation likely
   contributors. Lung compliance in 40s and resistance acceptable.
   Therefore neuromuscular. [**Month (only) 11**] be due to sedation and low bicarb with
   reduced drive. Needs longer trials of weaned pressure and further
   diuresis.
   - continue daily weaning trials
   # Yeast fungemia
   Noted on positive blood culture. Most likely source was central line
   (now resited).  No [**Female First Name (un) 444**] endophthalmitis per optho
   -continue fluconazole
   -f/u ID recs
   -f/u micro data
   # Coagulopathy: Improved, with INR now 1.4. Possibly nutrition related.
   -trend CBC, INR, PTT
   -holding off on further anticoagulation, consider pt
s recent bleeding
   problems on heparin gtt
   # Acute on chronic renal failure: Renal failure likely prerenal. Cr
   stable at 2.0 (baseline 1.6-1.8)
   -f/u renal recs
   -trend lytes [**Hospital1 **]
   -consider CVVH tomorrow, as above
   # LE ulcers: Vascular has been following, and may recommend surgical
   debridement in future. On broad spectrum antibiotics. Tissue culture
   results yield GPCs in pairs/clusters and GNRs suggesting polymicrobial
   chronic infection.
   - Await speciation/sensitivities
   - ID recs
   - continue vanco/cefepime/flagyl
   - f/u blood cx results
   - f/u vascular recs (Do they think this is Osteo or no active signs of
   osteo?)
   # Tophaceous Gout: Diffuse tophi on exam.
   - continue renally adjusted dose of allopurinol
   - holding home colchicine for now
   # Ulcerative colitis: On chronic steroids.
   - stress dose steroids in setting of critical illness (halved
   yesterday)
   # Hypothyroidism: continuing home dose of levothyoxine, TSH normal,
   total T4 low, but pt has been on amio (unsure if level was checked
   before or after it was started)
   - continue current dose
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2177-3-3**] 10:54 PM 25 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2177-2-23**] 09:02 PM
   Multi Lumen - [**2177-2-27**] 05:30 PM
   Prophylaxis:
   DVT:  heparin Sub Q
   Stress ulcer:  lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : CCU
   Total time spent:

2177-03-06 07:44:00 Physician Resident Progress Note
Chief Complaint: Reason for admission: ulcer debridement
   Reason for transfer to CCU: HF and afib
   24 Hour Events:
 SPUTUM CULTURE - At [**2177-3-5**] 10:36 AM
 DIALYSIS CATHETER - START [**2177-3-5**] 06:00 PM
   [**3-6**]
   - Change vanc dose based on today's level
   - Change allopurinol dose based on GFR (talk with pharmacy)
   - CVVH at 500 cc/hr, Renal prefer more like 100 cc/hr
   - Despite 500, has been maintaining pressures of ~ 130 systolic
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2177-3-4**] 12:00 AM
   Vancomycin - [**2177-3-4**] 08:30 AM
   Fluconazole - [**2177-3-5**] 01:00 PM
   Cefipime - [**2177-3-5**] 09:00 PM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-3-6**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.3
C (97.4
   HR: 92 (72 - 99) bpm
   BP: 127/55(74) {90/42(58) - 169/77(8,447)} mmHg
   RR: 23 (16 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 127.9 kg (admission): 112 kg
   Height: 73 Inch
    CVP: 19 (14 - 208)mmHg
   Total In:
                                                                  2,413 mL
                                                                  2,698 mL
   PO:
   TF:
                                                                    649 mL
                                                                    266 mL
   IVF:
                                                                  1,164 mL
                                                                  2,372 mL
   Blood products:
                                                                    550 mL
   Total out:
                                                                  2,024 mL
                                                                  4,319 mL
   Urine:
                                                                    658 mL
                                                                     85 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    389 mL
                                                                 -1,621 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   Compliance: 55 cmH2O/mL
   SpO2: 100%
   ABG: 7.41/31/99.[**Numeric Identifier 8**]/18/-3
   Ve: 14.6 L/min
   PaO2 / FiO2: 250
   Physical Examination
   GEN: Intubated, sedated, obese, anasarcic, opens eyes and nods to
   verbal stimuli appropriately.
   HEENT: NC/AT.
   CV: Faint HS. No m/r/g appreciated.
   LUNGS: Clear anteriorly.
   ABD: Soft, NTND. No HSM or tenderness.
   EXTREMITIES: Pitting edema in all 4 extremities. Large ecchymosis
   present on right arm. All 4 extremities wrapped with ACE wraps.
   NEURO: Opens eyes and nods to verbal stimuli. Moves all four
   extremities by verbal command. PERRLA
   Labs / Radiology
   72 K/uL
   10.4 g/dL
   261 mg/dL
   2.0 mg/dL
   18 mEq/L
   3.5 mEq/L
   107 mg/dL
   110 mEq/L
   141 mEq/L
   31.0 %
   7.9 K/uL
        [image002.jpg]
                             [**2177-3-4**]  04:57 AM
                             [**2177-3-4**]  05:09 AM
                             [**2177-3-4**]  07:38 PM
                             [**2177-3-5**]  03:56 AM
                             [**2177-3-5**]  04:05 AM
                             [**2177-3-5**]  04:50 AM
                             [**2177-3-5**]  10:42 AM
                             [**2177-3-5**]  06:33 PM
                             [**2177-3-6**]  03:51 AM
                             [**2177-3-6**]  04:10 AM
   WBC
   6.7
   4.8
   5.7
   7.9
   Hct
   31.5
   24.7
   24.0
   29.2
   31.0
   Plt
   48
   51
   44
   72
   Cr
   2.2
   2.1
   2.3
   2.4
   2.0
   TCO2
   19
   20
   19
   20
   Glucose
   [**Telephone/Fax (3) 11701**]61
   Other labs: PT / PTT / INR:15.8/29.3/1.4, ALT / AST:16/21, Alk Phos / T
   Bili:164/1.1, Differential-Neuts:96.5 %, Lymph:1.7 %, Mono:1.3 %,
   Eos:0.2 %, D-dimer:238 ng/mL, Fibrinogen:588 mg/dL, Lactic Acid:1.2
   mmol/L, Albumin:3.3 g/dL, LDH:185 IU/L, Ca++:8.9 mg/dL, Mg++:2.4 mg/dL,
   PO4:2.7 mg/dL
   Fluid analysis / Other labs: None.
   Imaging: Just confirmation of dialysis line.
   Microbiology: [**2177-3-3**] 3:20 pm TISSUE      Source: R calcaneus.
      GRAM STAIN (Final [**2177-3-3**]):
         1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
         1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         REPORTED BY PHONE TO [**Last Name (LF) **], [**First Name3 (LF) **] @ [**2177**] ON [**2177-3-3**].
      TISSUE (Preliminary):
         Due to mixed bacterial types (>=3) an abbreviated workup is
         performed; P.aeruginosa, S.aureus and beta strep. are reported if
         present. Susceptibility will be performed on P.aeruginosa and
         S.aureus if sparse growth or greater..
         DR [**Last Name (STitle) **] REQUESTED IDENTIFICATION AND SENSITIVITIES ON ALL
         ORGANISMS ([**Numeric Identifier 11702**]) [**2177-3-5**].
         STAPH AUREUS COAG +.    SPARSE GROWTH.
         GRAM NEGATIVE ROD(S).    MODERATE GROWTH.
         GRAM NEGATIVE ROD(S).    SPARSE GROWTH STRAIN 2.
      ANAEROBIC CULTURE (Preliminary):    NO ANAEROBES ISOLATED.
      FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
   ECG: .
   Assessment:
   66 yo M with systolic CHF, OSA/Pulm HTN, CKD, DMII, severe PVD c/b
   multiple ulcerations presenting with massive fluid overload and acute
   on chronic renal failure in setting of a fib.  Now, in respiratory
   failure s/p intubation and with hypotension off pressors.
   Plan:
   # Volume Overload
   Likely related to poor forward flow in the setting of pt
s heart
   failure. As above, pt had improved UOP in the setting of a slightly
   higher CVP, after receiving blood and albumin. Restarted milrinone
   along with IV lasix, no significant improvement in output, still net
   positive.  Pt is negative 1.5 L since MN
   - continue  CVVH goal 100-200 per hr
   - will need to adjust medications with CVVH
   # Hypotension: Resolved. Multiple possible etiologies, including
   hypovolemia (bleeding, diuresis), distributive (given yeast in blood),
   cardiogenic (given CHF, frequent ectopy). Improved with resolution of
   bleeding and cardioversion to sinus rhythm. Likely primarily
   cardiogenic in nature.
   - Transfuse per above
   - CVVH per above as ultrafiltration will assist in Frank-Starling
   physiology
   - continue vanc/cefepime/flagyl, plus increased fluconazole from 200 mg
   IV Q24H to 400 mg IV Q24H (per ID and pharm)
   - goal CVP in upper teens to low 20
s, as that is when pt seems to have
   better UOP
   - Guiac all stools
   # Respiratory Faliure
   Per CXR, likely large component of edema given CXR findings after
   reducing pressure support. This suggests pt is dependent on positive
   pressure to keep fluid out of lungs. Inspiratory effort is also poor at
   present, which is unexplained. Obesity and sedation likely
   contributors. Lung compliance in 40s and resistance acceptable.
   Therefore neuromuscular. [**Month (only) 11**] be due to sedation and low bicarb with
   reduced drive. Needs longer trials of weaned pressure and further
   diuresis.
   - continue daily weaning trials
   - stop fentanyl gtt
   # Yeast fungemia
   Noted on positive blood culture. Most likely source was central line
   (now resited).  No [**Female First Name (un) 444**] endophthalmitis per optho
   -continue fluconazole
   -f/u ID recs
   -f/u micro data
   - due we need to add bactrim
   # Coagulopathy: Improved, with INR now 1.4. Possibly nutrition related.
   -trend CBC, INR, PTT
   -holding off on further anticoagulation, consider pt
s recent bleeding
   problems on heparin gtt
   -if no adequate HCT bump consider small dose of vitamin K
   # Acute on chronic renal failure: Renal failure likely prerenal. Cr
   stable at 2.0 (baseline 1.6-1.8)
   -f/u renal recs
   -trend lytes [**Hospital1 **]
   -consider CVVH tomorrow, as above
   # LE ulcers: Vascular has been following, and may recommend surgical
   debridement in future. On broad spectrum antibiotics. Tissue culture
   results yield GPCs in pairs/clusters and GNRs suggesting polymicrobial
   chronic infection.
   - Await speciation/sensitivities
   - ID recs
   - continue vanco/cefepime/flagyl
   - f/u blood cx results
   - f/u vascular recs (Do they think this is Osteo or no active signs of
   osteo?)
   # Tophaceous Gout: Diffuse tophi on exam.
   - continue renally adjusted dose of allopurinol
   - holding home colchicine for now
   # Ulcerative colitis: On chronic steroids.
   - stress dose steroids in setting of critical illness (halved
   yesterday)
   # Hypothyroidism: continuing home dose of levothyoxine, TSH normal,
   total T4 low, but pt has been on amio (unsure if level was checked
   before or after it was started)
   - continue current dose
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2177-3-6**] 02:44 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2177-2-23**] 09:02 PM
   Multi Lumen - [**2177-2-27**] 05:30 PM
   Dialysis Catheter - [**2177-3-5**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:

2177-03-07 07:16:00 Physician Resident Progress Note
Chief Complaint: Reason for admission: ulcer debridement
   Reason for transfer to CCU: HF and afib
   HISTORY OF PRESENTING ILLNESS and summary of hospital course:
   66 yo male with hx of CHF, DMII, CRF stage III, HTN, chronic AFIB, and
   [**Hospital 1635**] transfered from [**Hospital3 1672**] on [**2177-2-19**] due to extensive  lower
   extremity ulcers. He was initailly on the vascular service then
   transfered to the medicine service on [**2177-2-20**] due to needed more tx for
   [**Last Name (un) **] HF and acute on chronic renal failure and concern of his rhythm.
   24 Hour Events:
   [**3-6**]
   - renal thinks rate of dialysis is too fast as we need some perfusion
   of his kidneys
   - Vanc held today given level of 27.7
   - Stopped allopurinol given question of present gout flare
   - Cut stress-dose steroids in half (50 -> 25 mg Hydrocort Na succ IV
   q24h)
   - ID recs:
       - Continue fluconazole ([**Date range (1) 11715**])
       - Continue IV vancomycin/cefepime/flagyl for RLE ? osteo cult pnd.
       - F/u wound tissue culture from [**3-3**]
       - (eye exam to exclude endophthalmitis completed (& negative)
       - Continue to follow daily vancomycin trough (ordered for [**Doctor First Name **])
   - Pharmacy recs for dose adjustment with CVVH:
       - Cefepime 2 g IV Q12h
       - Flagyl does not need adjustment
       - Fluconazole should be reduced to 200 mg q24h
       - All other meds okay
       - Vancomycin dosing by level
   Renal recs
   - keep CVVH around 100-150cc off per hour to try and keep kidneys
   perfused (aggressive goals may make him dialysis dependent)
   Late breaking ID recs
 pt. has pseudomonas
   -          stop flagyl
   -          continue to trough and daily dose vancomycin
   -          find out cvvh dose of bactrim and start
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2177-3-4**] 08:30 AM
   Fluconazole - [**2177-3-6**] 01:08 PM
   Cefipime - [**2177-3-7**] 05:45 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-3-7**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 35.9
C (96.6
   HR: 81 (71 - 95) bpm
   BP: 131/48(73) {87/37(53) - 141/64(87)} mmHg
   RR: 15 (15 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 127.9 kg (admission): 112 kg
   Height: 73 Inch
    CVP: 16 (13 - 21)mmHg
   Total In:
                                                                  8,062 mL
                                                                  2,296 mL
   PO:
   TF:
                                                                    883 mL
                                                                    270 mL
   IVF:
                                                                  6,908 mL
                                                                  2,026 mL
   Blood products:
   Total out:
                                                                 11,795 mL
                                                                  3,427 mL
   Urine:
                                                                    187 mL
                                                                     49 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,733 mL
                                                                 -1,131 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 579 (530 - 622) mL
   PS : 8 cmH2O
   RR (Spontaneous): 14
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 31
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: 7.38/35/192/21/-3
   Ve: 9 L/min
   PaO2 / FiO2: 480
   Physical Examination
   GEN: Intubated, sedated, obese, anasarcic, opens eyes and nods to
   verbal stimuli appropriately.
   HEENT: NC/AT.
   CV: Faint HS. No m/r/g appreciated.
   LUNGS: Clear anteriorly.
   ABD: Soft, NTND. No HSM or tenderness.
   EXTREMITIES: Pitting edema in all 4 extremities. Large ecchymosis
   present on right arm. All 4 extremities wrapped with ACE wraps.
   NEURO: Opens eyes and nods to verbal stimuli. Moves all four
   extremities by verbal command. PERRLA
   Labs / Radiology
   41 K/uL
   9.9 g/dL
   273 mg/dL
   1.3 mg/dL
   21 mEq/L
   4.0 mEq/L
   59 mg/dL
   107 mEq/L
   139 mEq/L
   30.4 %
   6.2 K/uL
        [image002.jpg]
                             [**2177-3-6**]  04:10 AM
                             [**2177-3-6**]  09:30 AM
                             [**2177-3-6**]  10:01 AM
                             [**2177-3-6**]  04:27 PM
                             [**2177-3-6**]  04:55 PM
                             [**2177-3-6**]  09:09 PM
                             [**2177-3-6**]  09:26 PM
                             [**2177-3-7**]  04:35 AM
                             [**2177-3-7**]  04:49 AM
                             [**2177-3-7**]  06:23 AM
   WBC
   6.2
   Hct
   30.4
   Plt
   41
   Cr
   1.8
   1.5
   1.3
   TCO2
   20
   21
   22
   23
   22
   22
   Glucose
   [**Telephone/Fax (3) 11716**]33
   304
   273
   Other labs: PT / PTT / INR:15.4/29.4/1.4, ALT / AST:16/21, Alk Phos / T
   Bili:164/1.1, Differential-Neuts:96.5 %, Lymph:1.7 %, Mono:1.3 %,
   Eos:0.2 %, D-dimer:238 ng/mL, Fibrinogen:588 mg/dL, Lactic Acid:1.4
   mmol/L, Albumin:3.3 g/dL, LDH:185 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.3 mg/dL
   Fluid analysis / Other labs: None.
   Imaging: CXR: [**2177-3-6**]:
   CHEST, AP: A new right dual-lumen catheter terminates at the cavoatrial
   junction. Other mechanical and support devices are unchanged in the
   course
   and position. There is no pneumothorax. Diffuse alveolar opacities
   persist
   in the right lung. The left lung is clear. Moderate left and small
   right
   effusions are unchanged. Mild cardiomegaly is stable. The aorta is
   tortuous
   and calcified. The hilar contours are normal.
   IMPRESSION: Diffuse right pneumonia, with superimposed edema.
   CXR from [**2177-3-7**] pending.
   Microbiology: [**2177-3-3**] 3:20 pm TISSUE      Source: R calcaneus.
      GRAM STAIN (Final [**2177-3-3**]):
         1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
         1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         REPORTED BY PHONE TO [**Last Name (LF) **], [**First Name3 (LF) **] @ [**2177**] ON [**2177-3-3**].
      TISSUE (Preliminary):
         Due to mixed bacterial types (>=3) an abbreviated workup is
         performed; P.aeruginosa, S.aureus and beta strep. are reported if
         present. Susceptibility will be performed on P.aeruginosa and
         S.aureus if sparse growth or greater..
         DR [**Last Name (STitle) **] REQUESTED IDENTIFICATION AND SENSITIVITIES ON ALL
         ORGANISMS ([**Numeric Identifier 11702**]) [**2177-3-5**].
         STAPH AUREUS COAG +.    SPARSE GROWTH.
            Oxacillin RESISTANT Staphylococci MUST be reported as also
            RESISTANT to other penicillins, cephalosporins, carbacephems,
            carbapenems, and beta-lactamase inhibitor combinations
   Rifampin
            should not be used alone for therapy.
         STENOTROPHOMONAS (XANTHOMONAS) MALTOPHILIA.    MODERATE GROWTH.
         GRAM NEGATIVE ROD(S).    SPARSE GROWTH STRAIN 2.
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                STAPH AUREUS COAG +
                                |          STENOTROPHOMONAS (XANTHOMONAS)
   MALTOPH
                                |          |
   CLINDAMYCIN-----------   =>8 R
   ERYTHROMYCIN----------   =>8 R
   GENTAMICIN------------  =>16 R
   LEVOFLOXACIN----------   =>8 R
   OXACILLIN-------------   =>4 R
   RIFAMPIN-------------- <=0.5 S
   TETRACYCLINE----------   <=1 S
   TRIMETHOPRIM/SULFA---- <=0.5 S        2 S
   VANCOMYCIN------------     1 S
      ANAEROBIC CULTURE (Preliminary):    NO ANAEROBES ISOLATED.
      FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
   --------------------------------------------
   [**2177-3-5**] 9:56 am SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2177-3-5**]):
         >25 PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   YEAST(S).
      RESPIRATORY CULTURE (Preliminary):
         Further incubation required to determine the presence or absence
   of
         commensal respiratory flora.
         YEAST.    SPARSE GROWTH OF TWO COLONIAL MORPHOLOGIES.
      FUNGAL CULTURE (Preliminary):
         YEAST.
   ECG: .
   Assessment:
   66 yo M with systolic CHF, OSA/Pulm HTN, CKD, DMII, severe PVD c/b
   multiple ulcerations presenting with massive fluid overload and acute
   on chronic renal failure in setting of a fib.  Now, in respiratory
   failure s/p intubation and with hypotension off pressors.
   Plan:
   # Volume Overload
   Likely related to poor forward flow in the setting of pt
s heart
   failure. As above, pt had improved UOP in the setting of a slightly
   higher CVP, after receiving blood and albumin. Restarted milrinone
   along with IV lasix, no significant improvement in output, still net
   positive.  Pt is 3.7 L negative in 24 hrs. ABx redosed for CVVH.
   - Emphasize SLOW ultrafiltration to allow adequate kidney perfusion
   - continue  CVVH goal 100-150 per hr
   # Hypotension: Improved. Multiple possible etiologies, including
   hypovolemia (bleeding, diuresis), distributive (given yeast in blood),
   cardiogenic (given CHF, frequent ectopy). Improved with resolution of
   bleeding and cardioversion to sinus rhythm. Likely primarily
   cardiogenic in nature.
   - CVVH per above as ultrafiltration will assist in Frank-Starling
   physiology
   - continue vanc/cefepime, plus increased fluconazole 400 mg IV Q24H
   (per ID and pharm)
   - stop flagyl per ID, start bactrim at cvvh dose (find out today)
   - goal CVP in upper teens to low 20
s, as that is when pt seems to have
   better UOP
   # Respiratory Failure and Vent.
   Will wean today
 fighting AC and satble on PSV 8/5 overnight. Gases
   good. Per CXR, likely large component of edema given CXR findings after
   reducing pressure support. This suggests pt is dependent on positive
   pressure to keep fluid out of lungs. Inspiratory effort is also poor at
   present, which is unexplained. Obesity and sedation likely
   contributors. Lung compliance in 40s and resistance acceptable.
   Therefore neuromuscular. [**Month (only) 11**] be due to sedation and low bicarb with
   reduced drive. Needs longer trials of weaned pressure and further
   diuresis.
   - will attempt extubation today
   - Convert to non-invasive mask
   # Yeast fungemia
   Noted on positive blood culture. Most likely source was central line
   (now resited).  No [**Female First Name (un) 444**] endophthalmitis per optho
   -continue fluconazole
   - contact ID re stenotrophamonas
   -f/u ID recs
   -f/u micro data
   - ? add bactrim
   # Low grade temp: In setting of CVVH.
   - Check C diff
   # Thrombocytopenia: possibly secondary to PPI.
   - Stop PPI once extubated
   # Coagulopathy: Improved, with INR now 1.4. Possibly nutrition related.
   -trend CBC, INR, PTT
   -holding off on further anticoagulation, consider pt
s recent bleeding
   problems on heparin gtt
   -if no adequate HCT bump consider small dose of vitamin K
   # Acute on chronic renal failure: Renal failure likely prerenal. Cr
   stable at 2.0 (baseline 1.6-1.8)
   -f/u renal recs
   -trend lytes [**Hospital1 **]
   -consider CVVH tomorrow, as above
   # LE ulcers: Vascular has been following, and may recommend surgical
   debridement in future. On broad spectrum antibiotics. Tissue culture
   results yield GPCs in pairs/clusters and GNRs suggesting polymicrobial
   chronic infection.
   - Await speciation/sensitivities
   - ID recs
   - continue vanco/cefepime
   - stop flagyl per ID
   - start bactrim with adjustment for cvvh
   - f/u blood cx results
   - f/u vascular recs (Do they think this is Osteo or no active signs of
   osteo?)
   # Tophaceous Gout: Diffuse tophi on exam.
   - continue renally adjusted dose of allopurinol
   - holding home colchicine for now
   - on steroids
   # Ulcerative colitis: On chronic steroids.
   - stress dose steroids in setting of critical illness (halved
   yesterday)
   # Hypothyroidism: continuing home dose of levothyoxine, TSH normal,
   total T4 low, but pt has been on amio (unsure if level was checked
   before or after it was started)
   - continue current dose
   ICU Care
   Nutrition: Tubefeeding: Start After 12:01AM; Nutren 2.0 Full strength;
   Additives: Beneprotein, 14 gm/day
   Starting rate: 45 ml/hr; Advance rate by 10 ml q4h Goal rate: 45 ml/hr
   Residual Check: q4h Hold feeding for residual >= : 100 ml
   Flush w/ 30 ml water q12h
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2177-2-23**] 09:02 PM
   Multi Lumen - [**2177-2-27**] 05:30 PM
   Dialysis Catheter - [**2177-3-5**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr. [**Last Name (STitle) 10340**].
   I would add the following remarks:
   History
   Removed 3.7 L fluid yesterday which was slightly more of an hourly rate
   than needed and resulted in a marked reduction in urine output.
   Neverthess, weaning parameters were improved.
   Medical Decision Making
   Our main goal is to proceed extubate and the recent volume removal has
   allowed us fluid sufficient to improve his weaning parameters.
   Yesterday, this resulted in reduced renal perfusion and anuria, but we
   plan to correct this today.  We will continue his antibiotic therapy as
   well.
   Total time spent on patient care: 30 minutes of critical care time
   ------ Protected Section Addendum Entered By:[**Name (NI) 3139**] [**Last Name (NamePattern1) 5279**], MD
   on:[**2177-3-7**] 15:27 ------

2177-03-08 06:28:00 Physician Resident Progress Note
Chief Complaint: HF and afib
   24 Hour Events:
   [**3-7**]
   - extubated
   - ID recommended starting bactrim 560mg IV Q12H and stop flagyl
   - increased glargine to 20 Q HS
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2177-3-7**] 10:00 AM
   Fluconazole - [**2177-3-7**] 12:20 PM
   Bactrim (SMX/TMP) - [**2177-3-8**] 03:57 AM
   Cefipime - [**2177-3-8**] 05:22 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-3-7**] 08:56 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies CP, SOB, feels congested.
   Flowsheet Data as of  [**2177-3-8**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 81 (64 - 90) bpm
   BP: 102/51(68) {89/37(53) - 161/80(107)} mmHg
   RR: 21 (13 - 24) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 127.9 kg (admission): 112 kg
   Height: 73 Inch
    CVP: 8 (8 - 17)mmHg
   Total In:
                                                                  8,014 mL
                                                                  2,326 mL
   PO:
                                                                     50 mL
   TF:
                                                                    270 mL
   IVF:
                                                                  7,634 mL
                                                                  2,326 mL
   Blood products:
   Total out:
                                                                 10,859 mL
                                                                  2,589 mL
   Urine:
                                                                    164 mL
                                                                     75 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                 -2,845 mL
                                                                   -263 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 702 (702 - 702) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 14 cmH2O
   SpO2: 99%
   ABG: 7.39/38/118/22/-1
   Ve: 9.2 L/min
   PaO2 / FiO2: 236
   Physical Examination
   GEN: Obese, anasarcic man mildly uncomfortable breathing
   HEENT: NC/AT.
   CV: Faint HS. No m/r/g appreciated.
   LUNGS: Clear anteriorly.
   ABD: Soft, NTND. No HSM or tenderness.
   EXTREMITIES: Pitting edema in all 4 extremities. Large ecchymosis
   present on right arm. All 4 extremities wrapped with ACE wraps.
   NEURO: Moves all four extremities by verbal command. Answers questions
   appropriately
   Labs / Radiology
   64 K/uL
   9.9 g/dL
   165 mg/dL
   0.9 mg/dL
   22 mEq/L
   4.3 mEq/L
   29 mg/dL
   106 mEq/L
   139 mEq/L
   29.0 %
   6.2 K/uL
        [image002.jpg]
                             [**2177-3-7**]  10:18 AM
                             [**2177-3-7**]  10:31 AM
                             [**2177-3-7**]  01:56 PM
                             [**2177-3-7**]  04:20 PM
                             [**2177-3-7**]  04:39 PM
                             [**2177-3-7**]  10:06 PM
                             [**2177-3-7**]  10:17 PM
                             [**2177-3-8**]  12:55 AM
                             [**2177-3-8**]  03:58 AM
                             [**2177-3-8**]  04:18 AM
   WBC
   6.2
   Hct
   29.0
   Plt
   64
   Cr
   1.1
   1.0
   0.9
   TCO2
   20
   22
   21
   25
   23
   24
   Glucose
   227
   237
   154
   165
   Other labs: PT / PTT / INR:15.4/29.4/1.4, ALT / AST:16/21, Alk Phos / T
   Bili:164/1.1, Differential-Neuts:96.5 %, Lymph:1.7 %, Mono:1.3 %,
   Eos:0.2 %, D-dimer:238 ng/mL, Fibrinogen:588 mg/dL, Lactic Acid:1.4
   mmol/L, Albumin:3.3 g/dL, LDH:185 IU/L, Ca++:8.7 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.1 mg/dL
   Imaging: CXR AP [**2177-3-7**]:
   FINDINGS: The patient has been extubated and the NG tube has been
   removed.
   The position of the right internal jugular catheter and left JVP line
   are
   unchanged.
   Diffuse right-sided lung consolidation is minimally improved.
   Atelectasis and
   possible consolidation in the left lung base is stable. A small left
   pleural
   effusion is unchanged.
   IMPRESSION:
   The slight improvement in the right lung consolidation could also be
   due to
   improvement in superimposed asymmetrical pulmonary edema if there is
   known mitral valvular disease.
   Microbiology: [**2177-3-3**] 3:20 pm TISSUE      Source: R calcaneus.
      GRAM STAIN (Final [**2177-3-3**]):
         1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
         1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         REPORTED BY PHONE TO [**Last Name (LF) **], [**First Name3 (LF) **] @ [**2177**] ON [**2177-3-3**].
      TISSUE (Preliminary):
         Due to mixed bacterial types (>=3) an abbreviated workup is
         performed; P.aeruginosa, S.aureus and beta strep. are reported if
         present. Susceptibility will be performed on P.aeruginosa and
         S.aureus if sparse growth or greater..
         DR [**Last Name (STitle) **] REQUESTED IDENTIFICATION AND SENSITIVITIES ON ALL
         ORGANISMS ([**Numeric Identifier 11702**]) [**2177-3-5**].
         STAPH AUREUS COAG +.    SPARSE GROWTH.
            Oxacillin RESISTANT Staphylococci MUST be reported as also
            RESISTANT to other penicillins, cephalosporins, carbacephems,
            carbapenems, and beta-lactamase inhibitor combinations
   Rifampin
            should not be used alone for therapy.
         STENOTROPHOMONAS (XANTHOMONAS) MALTOPHILIA.    MODERATE GROWTH.
            AMI REQUESTED SENSITIVITIES TO  CEFTAZIDIME AND Levofloxacin.
         ENTEROBACTER CLOACAE.    SPARSE GROWTH.
            This organism may develop resistance to third generation
            cephalosporins during prolonged therapy. Therefore, isolates
   that
            are initially susceptible may become resistant within three to
            four days after initiation of therapy.  For serious
   infections,
            repeat culture and sensitivity testing may therefore be
   warranted
            if third generation cephalosporins were used.
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                STAPH AUREUS COAG +
                                |          STENOTROPHOMONAS (XANTHOMONAS)
   MALTOPH
                                |          |          ENTEROBACTER CLOACAE
                                |          |          |
   CEFEPIME--------------                           2 S
   CEFTAZIDIME-----------                        =>64 R
   CEFTRIAXONE-----------                        =>64 R
   CIPROFLOXACIN---------                         =>4 R
   CLINDAMYCIN-----------   =>8 R
   ERYTHROMYCIN----------   =>8 R
   GENTAMICIN------------  =>16 R                 <=1 S
   LEVOFLOXACIN----------   =>8 R
   MEROPENEM-------------                      <=0.25 S
   OXACILLIN-------------   =>4 R
   PIPERACILLIN/TAZO-----                       =>128 R
   RIFAMPIN-------------- <=0.5 S
   TETRACYCLINE----------   <=1 S
   TOBRAMYCIN------------                         <=1 S
   TRIMETHOPRIM/SULFA---- <=0.5 S        2 S      <=1 S
   VANCOMYCIN------------     1 S
      ANAEROBIC CULTURE (Final [**2177-3-7**]):    NO ANAEROBES ISOLATED.
      FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
   Assessment and Plan
 ALTERATION IN NUTRITION
 BACTEREMIA
 DIABETES MELLITUS (DM), TYPE II
 HYPOTHYROIDISM
 ULCERATIVE COLITIS
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 EPISTAXIS (NOSEBLEED)
 .H/O ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC
   KIDNEY DISEASE)
   Assessment:
   66 yo M with systolic CHF, OSA/Pulm HTN, CKD, DMII, severe PVD c/b
   multiple ulcerations presenting with massive fluid overload and acute
   on chronic renal failure in setting of a fib.  Now, in respiratory
   failure s/p intubation and with hypotension off pressors.
   Plan:
   # Volume Overload
   Likely related to poor forward flow in the setting of pt
s heart
   failure. Ultrafiltration has been somewhat too brisk than necessary as
   we also want to maintain perfusion to kidneys that we hope may regain
   some function. Pt is 2.8 L negative in 24 hrs. LOS pt still nearly 5L
   positive.
   - Continue ultrafiltration at current rates to allow adequate kidney
   perfusion per renal
   - continue CVVH goal 75-100 per hr
   # Hypotension: Improved. Multiple possible etiologies, including
   hypovolemia (bleeding, diuresis), distributive (given yeast in blood),
   cardiogenic (given CHF, frequent ectopy). Improved with resolution of
   bleeding and cardioversion to sinus rhythm. Likely primarily
   cardiogenic in nature.
   - CVVH per above as ultrafiltration will assist in Frank-Starling
   physiology
   - continue vanc/cefepime, plus increased fluconazole 400 mg IV Q24H
   (per ID and pharm)
   - stop flagyl per ID, start bactrim at 560mg IV Q12H
   # Hypoxia:
   Most likely [**1-7**] pulmonary edema and possible PNA as evidenced by CXR.
   Inspiratory effort is also poor at present, which is unexplained, may
   be due to ventilator myopathy. Obesity and hypoventilation likely
   contributors. Needs further diuresis.
   - Continue diuresis
   -Encourage incentive spirometry
   - Continue antibiotics
   - CPAP PRN
   - [**Month (only) 11**] need to revisit intubation
   # LE ulcers: Now growing STAPH AUREUS COAG +, STENOTROPHOMONAS
   (XANTHOMONAS) MALTOPH, and ENTEROBACTER CLOACAE all sensitive to
   bactrim. Vascular has been following, and may recommend surgical
   debridement in future.
   - Continue bactrim 650mg IV Q12 at CVVH doses, will need to readjust
   after CVVH completed
   - continue vanco/cefepime
   - stop flagyl per ID
   - f/u blood cx results
   - f/u vascular recs (Do they think this is Osteo or no active signs of
   osteo?)
   # Yeast fungemia
   Noted on positive blood culture. Most likely source was central line
   (now resited).  No [**Female First Name (un) 444**] endophthalmitis per optho
   -continue fluconazole
   - bactrim for stenotrophamonas
   -f/u ID recs
   -f/u micro data
   - ? add bactrim
   # Low grade temp: In setting of CVVH.
   - Check C diff
   # Thrombocytopenia: possibly secondary to PPI.
   - Stop PPI once extubated
   # Coagulopathy: Improved, with INR now 1.4. Possibly nutrition related.
   -trend CBC, INR, PTT
   -holding off on further anticoagulation, consider pt
s recent bleeding
   problems on heparin gtt
   # Acute on chronic renal failure: Renal failure likely prerenal. Cr
   stable at 2.0 (baseline 1.6-1.8)
   -f/u renal recs
   -trend lytes [**Hospital1 **]
   -consider CVVH tomorrow, as above
   # Tophaceous Gout: Diffuse tophi on exam.
   - continue renally adjusted dose of allopurinol
   - holding home colchicine for now
   - on steroids
   # Ulcerative colitis: On chronic steroids.
   - stress dose steroids in setting of critical illness (halved
   yesterday)
   # Hypothyroidism: continuing home dose of levothyoxine, TSH normal,
   total T4 low, but pt has been on amio (unsure if level was checked
   before or after it was started)
   - continue current dose
   ICU Care
   Nutrition: NPO for now given aspiration risk
 speech and swallow
   consult
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2177-2-23**] 09:02 PM
   Multi Lumen - [**2177-2-27**] 05:30 PM
   Dialysis Catheter - [**2177-3-5**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition: CCU
   ------ Protected Section ------
   Labs
        [image002.jpg]
   WBC
   Hgb
   Hct (Serum)
   Hct (Whole blood)
   Plt
   INR
   PTT
   Na+
   K + (Serum)
   K + (Whole blood)
   Cl
   HCO3
   BUN
   Creatinine
   Glucose
   CK
   CK-MB
   Troponin T
   O2 sat (mixed venous)
   O2 sat (arterial)
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 10860**].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3287**], MD
   on:[**2177-3-9**] 08:33 ------

2177-03-09 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**3-8**]:
   - negative 1300cc with CVVH
   - ongoing tenuous respiratory status, alternating between face tent and
   biPAP
   - pt not opposed to idea of reintubation, but held off as gases looked
   good
   - in AF for two days
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2177-3-8**] 12:00 PM
   Vancomycin - [**2177-3-8**] 09:00 PM
   Bactrim (SMX/TMP) - [**2177-3-9**] 04:00 AM
   Cefipime - [**2177-3-9**] 06:17 AM
   Infusions:
   KCl (CRRT) - 2 mEq./hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-3-8**] 08:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-3-9**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.3
C (97.4
   HR: 83 (75 - 105) bpm
   BP: 116/56(77) {95/47(63) - 136/71(90)} mmHg
   RR: 24 (16 - 25) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 127.9 kg (admission): 112 kg
   Height: 73 Inch
    CVP: 13 (7 - 16)mmHg
   Total In:
                                                                  8,466 mL
                                                                  2,719 mL
   PO:
                                                                    100 mL
   TF:
   IVF:
                                                                  8,366 mL
                                                                  2,719 mL
   Blood products:
   Total out:
                                                                  9,747 mL
                                                                  3,217 mL
   Urine:
                                                                    156 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                 -1,281 mL
                                                                   -498 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 98%
   ABG: 7.20/61/103/23/-4
   PaO2 / FiO2: 343
   Physical Examination
   GEN: Obese, anasarcic man mildly uncomfortable breathing
   HEENT: NC/AT.
   CV: Faint HS. No m/r/g appreciated.
   LUNGS: Clear anteriorly.
   ABD: Soft, NTND. No HSM or tenderness.
   EXTREMITIES: Pitting edema in all 4 extremities. Large ecchymosis
   present on right arm. All 4 extremities wrapped with ACE wraps.
   NEURO: Moves all four extremities by verbal command. Answers questions
   appropriately
   Labs / Radiology
   82 K/uL
   11.2 g/dL
   217 mg/dL
   0.9 mg/dL
   23 mEq/L
   4.5 mEq/L
   17 mg/dL
   104 mEq/L
   137 mEq/L
   35.0 %
   9.9 K/uL
        [image002.jpg]
                             [**2177-3-8**]  03:58 AM
                             [**2177-3-8**]  04:18 AM
                             [**2177-3-8**]  09:50 AM
                             [**2177-3-8**]  10:02 AM
                             [**2177-3-8**]  03:33 PM
                             [**2177-3-8**]  03:48 PM
                             [**2177-3-8**]  05:34 PM
                             [**2177-3-9**]  12:30 AM
                             [**2177-3-9**]  05:02 AM
                             [**2177-3-9**]  05:48 AM
   WBC
   6.2
   9.9
   Hct
   29.0
   35.0
   Plt
   64
   82
   Cr
   0.9
   1.0
   1.0
   0.9
   TCO2
   24
   24
   23
   24
   25
   25
   Glucose
   165
   130
   167
   217
   Other labs: PT / PTT / INR:15.4/29.4/1.4, ALT / AST:16/21, Alk Phos / T
   Bili:164/1.1, Differential-Neuts:96.5 %, Lymph:1.7 %, Mono:1.3 %,
   Eos:0.2 %, D-dimer:238 ng/mL, Fibrinogen:588 mg/dL, Lactic Acid:1.4
   mmol/L, Albumin:3.3 g/dL, LDH:185 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.7 mg/dL
   Fluid analysis / Other labs: None.
   Imaging: CXR [**3-7**]
   The slight improvement in the right lung consolidation could also be
   due to
   improvement in superimposed asymmetrical pulmonary edema if there is
   known
   mitral valvular disease.
   Microbiology: [**2177-3-7**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B
   TEST-FINAL INPATIENT
   [**2177-3-5**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL {YEAST};
   FUNGAL CULTURE-PRELIMINARY {YEAST} INPATIENT
   [**2177-3-3**]  TISSUE GRAM STAIN-FINAL; TISSUE-PRELIMINARY {STAPH AUREUS
   COAG +, STENOTROPHOMONAS (XANTHOMONAS) MALTOPHILIA, ENTEROBACTER
   CLOACAE}; ANAEROBIC CULTURE-FINAL; FUNGAL CULTURE-PRELIMINARY
   ECG: .
   Assessment:
   66 yo M with systolic CHF, OSA/Pulm HTN, CKD, DMII, severe PVD c/b
   multiple ulcerations presenting with massive fluid overload and acute
   on chronic renal failure in setting of a fib.  Now, in respiratory
   failure s/p intubation and with hypotension off pressors.
   Plan:
   # Volume Overload
   Likely related to poor forward flow in the setting of pt
s heart
   failure. Ultrafiltration has been somewhat too brisk, as we also want
   to maintain perfusion to kidneys that we hope may regain some function.
   Pt is 2.8 L negative in 24 hrs. LOS pt still about 3.6 L positive.
   - Rest off CVVH this a.m. to see if urine output picks up
 stimulate
   w/ Lasix 40, then metolazone 5 and Lasix 80, then consider restarting
   CVVH (particularly if patient becomes more short of breath)
   # Hypotension
   Improved. Multiple possible etiologies, including hypovolemia
   (bleeding, diuresis), distributive (given yeast in blood), cardiogenic
   (given CHF, frequent ectopy). Improved with resolution of bleeding and
   cardioversion to sinus rhythm. Likely primarily cardiogenic in nature.
   Now patient is in AF again and pressures are slightly lower
 typically
   in 110s on average.
   - Attempt to increase UOP as above, otherwise CVVH again.
   - Consider cardioversion again
   - continue vanc/cefepime, plus increased fluconazole 400 mg IV Q24H
   (per ID and pharm)
   - bactrim at 560mg IV Q12H
   # Hypoxia
   Most likely [**1-7**] pulmonary edema, less likely PNA. Inspiratory force and
   hypoxia improved with diuresis.
   - Continue diuresis
   - Encourage incentive spirometry
   - Continue antibiotics
   - CPAP PRN, trial ultra-high flow nasal pressure support
   - [**Month (only) 11**] need to revisit intubation
   # LE ulcers
   Now growing STAPH AUREUS COAG +, STENOTROPHOMONAS (XANTHOMONAS)
   MALTOPH, and ENTEROBACTER CLOACAE all sensitive to bactrim. Vascular
   has been following, and may recommend surgical debridement in future.
   - Continue bactrim 650mg IV Q12 at CVVH doses, will need to readjust
   after CVVH completed
   - continue vanco/cefepime (covering staph and enterobacter)
   - continue Bactrim (covering staph and stenotropo)
   - f/u blood cx results
   - Reconsult vascular about intervention for LE arterial insufficiency
   - Ask ID about course of ABx Rx
   # Yeast fungemia
   Noted on positive blood culture. Most likely source was central line
   (now resited).  No [**Female First Name (un) 444**] endophthalmitis per optho
   -continue fluconazole
   -f/u ID recs
   -f/u micro data
   - Ask ID about course of ABx Rx
   # Low grade temp: In setting of CVVH.
   Likely due to
bear-hugger
, but will keep infection in mind. Patient
   is presently broadly covered.
   - Check C diff
   # Thrombocytopenia: possibly secondary to PPI.
   - Stop PPI once extubated
   # Coagulopathy: Improved, with INR now 1.4. Possibly nutrition related.
   -trend CBC, INR, PTT
   -holding off on further anticoagulation, consider pt
s recent bleeding
   problems on heparin gtt, despite AF (we weight risk of stroke as lower
   than risk of catastrophic bleed).
   # Acute on chronic renal failure: Renal failure likely prerenal. Cr
   stable at 2.0 (baseline 1.6-1.8)
   -f/u renal recs
   -trend lytes [**Hospital1 **]
   # Tophaceous Gout: Diffuse tophi on exam.
   - continue renally adjusted dose of allopurinol
   - holding home colchicine for now
   - on steroids
   # Ulcerative colitis: On chronic steroids.
   - Steroid dose halved again today to 12.5 from 25 hydrocort (tapering
   down from stress-dosing)
   # Hypothyroidism: continuing home dose of levothyoxine, TSH normal,
   total T4 low, but pt has been on amio (unsure if level was checked
   before or after it was started)
   - continue current dose
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2177-2-23**] 09:02 PM
   Multi Lumen - [**2177-2-27**] 05:30 PM
   Dialysis Catheter - [**2177-3-5**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s).
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3287**], MD
   on:[**2177-3-10**] 13:27 ------

2177-03-10 07:02:00 Physician Resident Progress Note
Chief Complaint: Chief Complaint: Reason for admission: ulcer
   debridement
   Reason for transfer to CCU: HF and afib
   66 yo male with hx of CHF, DMII, CRF stage III, HTN, chronic AFIB, and
   [**Hospital 1635**] transfered from [**Hospital3 1672**] on [**2177-2-19**] due to extensive  lower
   extremity ulcers. He was initailly on the vascular service then
   transfered to the medicine service on [**2177-2-20**] due to needed more tx for
   [**Last Name (un) **] HF and acute on chronic renal failure and concern of his rhythm.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2177-3-10**] 05:06 AM
   - D/w ID ABx course - they said they would comment in chart tomorrow.
   Cefepime covers enterobacter.
   - Gave 40mg Lasix IV - no UOP
   - Gave metolazone 5 mg PO then Lasix 80 IV - no UOP
   - (given metolazone still on board) Gave 200 Lasix IV
   - Per renal, no need to re-start CVVHD overnight; will address in AM if
   urine output continues to be low
   - Code Blue called at 4:50 a.m. Code started by nursing staff in
   context of bradycardia, hypotension, hypoxia. Epi and atropine given.
   Patient developed VT. Brief chest compressions, re-intubation and shock
   delivered with restoration of atrial fibrillation. Pressors restarted
   with restoration of reasonable SBP of 80s-90s, but need for sedation.
   Labs and CXR taken at time.
   - Wife informed of above and patient's stability after code - on her
   way in.
   - Pharmacy recommend changing vancomycin to 1250 mg IV
   - Pharmacy recommend changing fluconazole to 400 mg (from 200 mg)
   Patient now sedation with fentanyl/Versed and receiving Levophed 0.2.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2177-3-9**] 10:00 AM
   Fluconazole - [**2177-3-9**] 12:51 PM
   Bactrim (SMX/TMP) - [**2177-3-10**] 04:33 AM
   Cefipime - [**2177-3-10**] 06:33 AM
   Infusions:
   Amiodarone - 1 mg/min
   Norepinephrine - 0.2 mcg/Kg/min
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-3-9**] 08:00 AM
   Omeprazole (Prilosec) - [**2177-3-9**] 08:00 AM
   Furosemide (Lasix) - [**2177-3-9**] 02:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-3-10**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.2
C (97.2
   HR: 78 (78 - 99) bpm
   BP: 100/48(64) {61/40(47) - 137/85(92)} mmHg
   RR: 19 (19 - 33) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 127.9 kg (admission): 112 kg
   Height: 73 Inch
    CVP: 21 (6 - 21)mmHg
   Total In:
                                                                  4,727 mL
                                                                    858 mL
   PO:
                                                                     30 mL
   TF:
   IVF:
                                                                  4,697 mL
                                                                    858 mL
   Blood products:
   Total out:
                                                                  4,906 mL
                                                                     15 mL
   Urine:
                                                                    116 mL
                                                                     15 mL
   NG:
   Stool:
                                                                     75 mL
   Drains:
   Balance:
                                                                   -179 mL
                                                                    843 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   PEEP: 5 cmH2O
   FiO2: 80%
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.25/43/172/17/-8
   Ve: 14 L/min
   PaO2 / FiO2: 215
   Physical Examination
   GEN: Obese, anasarcic man mildly uncomfortable breathing
   HEENT: NC/AT.
   CV: Faint HS. No m/r/g appreciated.
   LUNGS: Clear anteriorly.
   ABD: Soft, NTND. No HSM or tenderness.
   EXTREMITIES: Pitting edema in all 4 extremities, however, anasarca
   significantly improved. Large ecchymosis present on right arm. All 4
   extremities wrapped with ACE wraps.
   NEURO: Sedated in the context of code, sedation for re-intubation.
   Labs / Radiology
   72 K/uL
   9.9 g/dL
   212 mg/dL
   1.6 mg/dL
   17 mEq/L
   4.6 mEq/L
   22 mg/dL
   102 mEq/L
   134 mEq/L
   29.4 %
   5.8 K/uL
        [image002.jpg]
                             [**2177-3-9**]  12:30 AM
                             [**2177-3-9**]  05:02 AM
                             [**2177-3-9**]  05:48 AM
                             [**2177-3-9**]  10:06 AM
                             [**2177-3-9**]  03:00 PM
                             [**2177-3-10**]  02:53 AM
                             [**2177-3-10**]  03:13 AM
                             [**2177-3-10**]  04:46 AM
                             [**2177-3-10**]  05:39 AM
                             [**2177-3-10**]  05:47 AM
   WBC
   9.9
   5.8
   Hct
   35.0
   29.4
   Plt
   82
   72
   Cr
   0.9
   1.1
   1.5
   1.6
   TCO2
   25
   25
   26
   27
   20
   20
   Glucose
   [**Telephone/Fax (2) 11763**]2
   Other labs: PT / PTT / INR:16.7/26.6/1.5, ALT / AST:16/21, Alk Phos / T
   Bili:164/1.1, Differential-Neuts:96.5 %, Lymph:1.7 %, Mono:1.3 %,
   Eos:0.2 %, D-dimer:238 ng/mL, Fibrinogen:588 mg/dL, Lactic Acid:3.7
   mmol/L, Albumin:3.3 g/dL, LDH:185 IU/L, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL,
   PO4:4.0 mg/dL
   Fluid analysis / Other labs: None.
   Imaging: CXR [**2177-3-10**] (after code)
   Microbiology: No new.
   ECG: .
   Assessment:
   66 yo M with systolic CHF, OSA/Pulm HTN, CKD, DMII, severe PVD c/b
   multiple ulcerations presenting with massive fluid overload and acute
   on chronic renal failure in setting of a fib.  Now, in respiratory
   failure s/p intubation and with hypotension off pressors. Extubated and
   CVVH stopped yesterday. Code today with hypotension, then hypoxia, then
   bradycardia. Successful resuscitation with short interval of
   hypotension and hypoperfusion, perhaps limited to 30 seconds.
   Plan:
   # Hypotension, hypoxia, bradycardia
   Differentials include fluid overload with poor forward flow in the
   context of holding CVVH. ACS possible. Appears, based on telemetry,
   that hypotension came first. [**Month (only) 11**] have had sinus arrest with ventricular
   escape, but hypotension appeared first. Precise etiology unclear. Also
   CXR significant for pulmonary edema in early resolution after
   re-intubation and restoration of pressure support (cephalization not
   present, but still fluffy infiltrate). Amiodarone reloaded. Atropine
   and epinephrine also given. Unclear whether VT occurred in context of
   atropine and epinephrine.
   - Restart CVVH
   - Continue amiodarone gtt
   - Defer to fellow/attending about continuing PO amiodarone and discuss
   etiology with them
   - Block cholinergic input to sinoatrial node
 more atropine, then
   other agents to stimulate sinoatrial node discharge.
   # Volume Overload
   Likely related to poor forward flow and hypotension, and possibly cause
   of hypotension again today given cessation of CVVH. Unclear that this
   is the direct cause. Ultrafiltration had previously been slightly
   brisk, then stopped abruptly. Brisk volume off likely contributed to
   poor renal perfusion.
   - Restart CVVH today with gentle goals off (per Renal, but about 50-100
   cc/hr net negative might be reasonable)
   # Hypotension (stable hypotension, not related to event)
   Improved, broadly. Had had better pressures in the last few days in the
   context of diuresis. Continued to maintain pressures in the context of
   rapid taper of stress-dose steroids. Improved with resolution of
   bleeding and cardioversion to sinus rhythm. Likely primarily
   cardiogenic in nature. For the last two day the patient was in AF again
   and pressures are slightly lower
 typically in 110s on average.
   - Continue CVVH with some gentle goal for negative given extravascular
   volume overload.
   - Nodal stimulation (reduce cholinergic tone to node)
   - continue vanc/cefepime, plus increased fluconazole 400 mg IV Q24H
   (per ID and pharm)
   - bactrim at 560mg IV Q12H
   # Hypoxia
   Most likely [**1-7**] pulmonary edema, less likely PNA. Inspiratory force and
   hypoxia improved with diuresis.
   - Continue diuresis with CVVH
   - Continue antibiotics
   - Keep intubated for now, CPAP PRN, trial ultra-high flow nasal
   pressure support after weaning again
   # LE ulcers
   Now growing STAPH AUREUS COAG +, STENOTROPHOMONAS (XANTHOMONAS)
   MALTOPH, and ENTEROBACTER CLOACAE all sensitive to bactrim. Vascular
   has been following, and may recommend surgical debridement in future.
   - Continue bactrim 650mg IV Q12 at CVVH doses, will need to readjust
   after CVVH completed
   - continue vanco/cefepime (covering staph and enterobacter)
   - continue Bactrim (covering staph and stenotropo)
   - f/u blood cx results
   - Reconsult vascular about intervention for LE arterial insufficiency
   - Ask ID about course of ABx Rx
   # Yeast fungemia
   Noted on positive blood culture. Most likely source was central line
   (now resited).  No [**Female First Name (un) 444**] endophthalmitis per optho
   -continue fluconazole, now 400 mg (from 200mg yesterday)
   -f/u ID recs
   -f/u micro data
   - Ask ID about course of ABx Rx
   # Low grade temp: In setting of CVVH.
   Likely due to
bear-hugger
, but will keep infection in mind. Patient
   is presently broadly covered.
   - Check C diff
   # Thrombocytopenia: possibly secondary to PPI.
   - Stop PPI once extubated
   # Coagulopathy: Improved, with INR now 1.4. Possibly nutrition related.
   -trend CBC, INR, PTT
   -holding off on further anticoagulation, consider pt
s recent bleeding
   problems on heparin gtt, despite AF (we weight risk of stroke as lower
   than risk of catastrophic bleed).
   # Acute on chronic renal failure: Renal failure likely prerenal. Cr
   stable at 2.0 (baseline 1.6-1.8)
   -f/u renal recs
   -trend lytes [**Hospital1 **]
   # Tophaceous Gout: Diffuse tophi on exam.
   - continue renally adjusted dose of allopurinol
   - holding home colchicine for now
   - on steroids
   # Ulcerative colitis: On chronic steroids.
   - Steroid dose halved again today to 12.5 from 25 hydrocort (tapering
   down from stress-dosing)
   # Hypothyroidism: continuing home dose of levothyoxine, TSH normal,
   total T4 low, but pt has been on amio (unsure if level was checked
   before or after it was started)
   - continue current dose
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2177-2-23**] 09:02 PM
   Multi Lumen - [**2177-2-27**] 05:30 PM
   Dialysis Catheter - [**2177-3-5**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 10340**].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3287**], MD
   on:[**2177-3-10**] 13:28 ------

2177-03-11 07:01:00 Physician Resident Progress Note
Chief Complaint: ulcer debridement
   24 Hour Events:
   [**3-10**]- [**3-11**]
   - increased fluconazole to 800 mg IV and bactrim to 1100 Q 12 per pharm
   recs
   - restarted TF now that NPO from intubation again
   - sent for c diff and bld and urine cultures given elevated white count
   and hypotension
   - got echo to look for right heart strain (to r/o PE as cause for
   cardiopulmonary arrest), but not remarkable
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2177-3-10**] 10:17 AM
   Fluconazole - [**2177-3-10**] 01:21 PM
   Cefipime - [**2177-3-10**] 08:04 PM
   Bactrim (SMX/TMP) - [**2177-3-11**] 03:00 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-3-11**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.1
C (97
   HR: 55 (48 - 76) bpm
   BP: 110/47(67) {90/39(55) - 135/67(89)} mmHg
   RR: 18 (14 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 127.9 kg (admission): 112 kg
   Height: 73 Inch
             Total In:
                                                                  5,895 mL
                                                                  2,551 mL
   PO:
             TF:
                                                                     25 mL
                                                                     63 mL
   IVF:
                                                                  5,750 mL
                                                                  2,454 mL
   Blood products:
   Total out:
                                                                  4,936 mL
                                                                  2,892 mL
   Urine:
                                                                     50 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    959 mL
                                                                   -341 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 2
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.33/38/143/21/-5
   Ve: 9.5 L/min
   PaO2 / FiO2: 286
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   152 K/uL
   10.4 g/dL
   174 mg/dL
   1.4 mg/dL
   21 mEq/L
   4.6 mEq/L
   21 mg/dL
   103 mEq/L
   136 mEq/L
   32.3 %
   10.3 K/uL
        [image002.jpg]
                             [**2177-3-10**]  10:33 AM
                             [**2177-3-10**]  10:48 AM
                             [**2177-3-10**]  01:28 PM
                             [**2177-3-10**]  03:06 PM
                             [**2177-3-10**]  05:21 PM
                             [**2177-3-10**]  05:44 PM
                             [**2177-3-10**]  10:54 PM
                             [**2177-3-10**]  11:17 PM
                             [**2177-3-11**]  01:31 AM
                             [**2177-3-11**]  06:29 AM
   WBC
   10.3
   Hct
   32.3
   Plt
   152
   Cr
   1.7
   1.6
   1.4
   TropT
   0.24
   TCO2
   23
   22
   21
   22
   23
   21
   Glucose
   173
   158
   207
   174
   Other labs: PT / PTT / INR:16.7/26.6/1.5, CK / CKMB /
   Troponin-T:21//0.24, ALT / AST:16/21, Alk Phos / T Bili:164/1.1,
   Differential-Neuts:81.7 %, Lymph:7.7 %, Mono:5.5 %, Eos:4.2 %,
   D-dimer:238 ng/mL, Fibrinogen:588 mg/dL, Lactic Acid:2.2 mmol/L,
   Albumin:3.3 g/dL, LDH:185 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.8
   mg/dL
   Imaging: CXR AP [**2177-3-10**]:
   FINDINGS: As compared to the previous radiograph, there is no relevant
   change. Unchanged course and position of the monitoring and support
   devices.
   Unchanged moderate cardiomegaly with severe retrocardiac atelectasis,
   small
   left-sided pleural effusion as well as severe, mainly perihilar
   parenchymal
   opacities on the right, likely to reflect pulmonary edema. Mild
   blunting of
   the right costophrenic sinus, a right pleural effusion cannot be
   excluded.
   No newly appeared focal parenchymal opacities suggesting pneumonia.
   Microbiology: [**2177-3-10**]  URINE URINE CULTURE-PENDING INPATIENT
   [**2177-3-10**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2177-3-10**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2177-3-7**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [**2177-3-5**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL {YEAST};
   FUNGAL CULTURE-PRELIMINARY {YEAST} INPATIENT
   [**2177-3-3**]  TISSUE GRAM STAIN-FINAL; TISSUE-FINAL {STAPH AUREUS COAG +,
   STENOTROPHOMONAS (XANTHOMONAS) MALTOPHILIA, ENTEROBACTER CLOACAE};
   ANAEROBIC CULTURE-FINAL; FUNGAL CULTURE-PRELIMINARY INPATIENT
   Mycolytics remain negative
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ALTERATION IN NUTRITION
 BACTEREMIA
 DIABETES MELLITUS (DM), TYPE II
 HYPOTHYROIDISM
 ULCERATIVE COLITIS
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 EPISTAXIS (NOSEBLEED)
 .H/O ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC
   KIDNEY DISEASE)
   Assessment:
   66 yo M with systolic CHF, OSA/Pulm HTN, CKD, DMII, severe PVD c/b
   multiple ulcerations presenting with massive fluid overload and acute
   on chronic renal failure in setting of a fib.  Now, in respiratory
   failure s/p intubation and with hypotension off pressors. Extubated and
   CVVH stopped yesterday. Recent code on [**2177-3-9**] in setting of
   hypotension, then hypoxia, then bradycardia. Successful resuscitation
   with short interval of hypotension and hypoperfusion, perhaps limited
   to 30 seconds.
   Plan:
   # Volume Overload
   Likely related to poor forward flow and hypotension, and possibly cause
   of hypotension again today given cessation of CVVH. Unclear that this
   is the direct cause. Ultrafiltration had previously been slightly
   brisk, then stopped abruptly. Brisk volume off likely contributed to
   poor renal perfusion.
   - Restart CVVH today with gentle goals off (per Renal, but about 50-100
   cc/hr net negative might be reasonable)
   # Hypotension, hypoxia, bradycardia: Resolved for now.
   Differentials include fluid overload with poor forward flow in the
   context of holding CVVH. ACS possible. Appears, based on telemetry,
   that hypotension came first. [**Month (only) 11**] have had sinus arrest with ventricular
   escape, but hypotension appeared first. Precise etiology unclear. Also
   CXR significant for pulmonary edema in early resolution after
   re-intubation and restoration of pressure support (cephalization not
   present, but still fluffy infiltrate). Amiodarone reloaded. Atropine
   and epinephrine also given. Unclear whether VT occurred in context of
   atropine and epinephrine.
   - Restart CVVH
   - Continue amiodarone gtt
   - Defer to fellow/attending about continuing PO amiodarone and discuss
   etiology with them
   - Block cholinergic input to sinoatrial node
 more atropine, then
   other agents to stimulate sinoatrial node discharge.
   # Hypotension (stable hypotension, not related to event)
   Improved, broadly. Had had better pressures in the last few days in the
   context of diuresis. Continued to maintain pressures in the context of
   rapid taper of stress-dose steroids. Improved with resolution of
   bleeding and cardioversion to sinus rhythm. Likely primarily
   cardiogenic in nature. For the last two day the patient was in AF again
   and pressures are slightly lower
 typically in 110s on average.
   - Continue CVVH with some gentle goal for negative given extravascular
   volume overload.
   - Nodal stimulation (reduce cholinergic tone to node)
   - continue vanc/cefepime, plus increased fluconazole 400 mg IV Q24H
   (per ID and pharm)
   - bactrim at 560mg IV Q12H
   # Hypoxia
   Most likely [**1-7**] pulmonary edema, less likely PNA. Inspiratory force and
   hypoxia improved with diuresis.
   - Continue diuresis with CVVH
   - Continue antibiotics
   - Keep intubated for now, CPAP PRN, trial ultra-high flow nasal
   pressure support after weaning again
   # LE ulcers
   Now growing STAPH AUREUS COAG +, STENOTROPHOMONAS (XANTHOMONAS)
   MALTOPH, and ENTEROBACTER CLOACAE all sensitive to bactrim. Vascular
   has been following, and may recommend surgical debridement in future.
   - Continue bactrim 650mg IV Q12 at CVVH doses, will need to readjust
   after CVVH completed
   - continue vanco/cefepime (covering staph and enterobacter)
   - continue Bactrim (covering staph and stenotropo)
   - f/u blood cx results
   - Reconsult vascular about intervention for LE arterial insufficiency
   - Ask ID about course of ABx Rx
   # Yeast fungemia
   Noted on positive blood culture. Most likely source was central line
   (now resited).  No [**Female First Name (un) 444**] endophthalmitis per optho
   -continue fluconazole, now 400 mg (from 200mg yesterday)
   -f/u ID recs
   -f/u micro data
   - Ask ID about course of ABx Rx
   # Low grade temp: In setting of CVVH.
   Likely due to
bear-hugger
, but will keep infection in mind. Patient
   is presently broadly covered.
   - Check C diff
   # Thrombocytopenia: possibly secondary to PPI.
   - Stop PPI once extubated
   # Coagulopathy: Improved, with INR now 1.4. Possibly nutrition related.
   -trend CBC, INR, PTT
   -holding off on further anticoagulation, consider pt
s recent bleeding
   problems on heparin gtt, despite AF (we weight risk of stroke as lower
   than risk of catastrophic bleed).
   # Acute on chronic renal failure: Renal failure likely prerenal. Cr
   stable at 2.0 (baseline 1.6-1.8)
   -f/u renal recs
   -trend lytes [**Hospital1 **]
   # Tophaceous Gout: Diffuse tophi on exam.
   - continue renally adjusted dose of allopurinol
   - holding home colchicine for now
   - on steroids
   # Ulcerative colitis: On chronic steroids.
   - Steroid dose halved again today to 12.5 from 25 hydrocort (tapering
   down from stress-dosing)
   # Hypothyroidism: continuing home dose of levothyoxine, TSH normal,
   total T4 low, but pt has been on amio (unsure if level was checked
   before or after it was started)
   - continue current dose
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2177-2-23**] 09:02 PM
   Multi Lumen - [**2177-2-27**] 05:30 PM
   Dialysis Catheter - [**2177-3-5**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2177-2-23**] 09:02 PM
   Multi Lumen - [**2177-2-27**] 05:30 PM
   Dialysis Catheter - [**2177-3-5**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2177-03-12 07:19:00 Physician Resident Progress Note
Chief Complaint: ulcer debridement
   24 Hour Events:
   [**3-11**] ID Recs
   d/c fluconazole tomorrow ([**2177-3-12**])
   switched to PO Bactrim
   continue vanc/cefepime
   after meeting with [**Doctor First Name 2554**] and pt's wife, pt now DNR/DNI. Wife may
   consider terminal extubation if no improvement in 2 days
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2177-3-11**] 03:00 AM
   Vancomycin - [**2177-3-11**] 10:00 AM
   Fluconazole - [**2177-3-11**] 12:25 PM
   Cefipime - [**2177-3-12**] 05:15 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pt denies pain
   Flowsheet Data as of  [**2177-3-12**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.8
   HR: 72 (57 - 86) bpm
   BP: 98/40(59) {90/36(53) - 125/61(172)} mmHg
   RR: 18 (14 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 127.9 kg (admission): 112 kg
   Height: 73 Inch
    CVP: 10 (6 - 13)mmHg
   Total In:
                                                                  8,271 mL
                                                                  2,312 mL
   PO:
   TF:
                                                                    207 mL
                                                                    241 mL
   IVF:
                                                                  7,788 mL
                                                                  2,011 mL
   Blood products:
   Total out:
                                                                 10,695 mL
                                                                  2,548 mL
   Urine:
                                                                     70 mL
                                                                     10 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,424 mL
                                                                   -232 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 425 (425 - 425) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI: 50
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   Compliance: 50.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.33/45/176/23/-2
   Ve: 9.7 L/min
   PaO2 / FiO2: 352
   Physical Examination
   GEN: Obese, anasarcic man comfortably resting, responds to voice
   HEENT: NC/AT.
   CV: Faint HS. No m/r/g appreciated.
   LUNGS: Clear anteriorly.
   ABD: Soft, NTND. No HSM or tenderness.
   EXTREMITIES: Pitting edema in all 4 extremities, however, anasarca
   improved. Large ecchymosis present on right arm. All 4 extremities
   wrapped with ACE wraps.
   NEURO: Drowsy, sedated, but moves all 4 extremities by command
   Labs / Radiology
   104 K/uL
   9.3 g/dL
   131 mg/dL
   1.0 mg/dL
   23 mEq/L
   4.4 mEq/L
   11 mg/dL
   104 mEq/L
   136 mEq/L
   29.0 %
   6.0 K/uL
        [image002.jpg]
                             [**2177-3-10**]  11:17 PM
                             [**2177-3-11**]  01:31 AM
                             [**2177-3-11**]  06:23 AM
                             [**2177-3-11**]  06:29 AM
                             [**2177-3-11**]  12:00 PM
                             [**2177-3-11**]  12:12 PM
                             [**2177-3-11**]  04:28 PM
                             [**2177-3-11**]  05:38 PM
                             [**2177-3-11**]  11:33 PM
                             [**2177-3-12**]  06:46 AM
   WBC
   6.0
   Hct
   29.0
   Plt
   104
   Cr
   1.1
   1.1
   1.0
   TCO2
   22
   23
   21
   23
   23
   23
   25
   Glucose
   184
   129
   131
   Other labs: PT / PTT / INR:16.7/26.6/1.5, CK / CKMB /
   Troponin-T:21//0.24, ALT / AST:16/21, Alk Phos / T Bili:164/1.1,
   Differential-Neuts:81.7 %, Lymph:7.7 %, Mono:5.5 %, Eos:4.2 %,
   D-dimer:238 ng/mL, Fibrinogen:588 mg/dL, Lactic Acid:1.4 mmol/L,
   Albumin:3.3 g/dL, LDH:185 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.0
   mg/dL
   Imaging: CXR AP [**2177-3-11**]:
   HISTORY: CHF and status post cardiopulmonary arrest.
   FINDINGS: In comparison with the study of [**3-10**], there is continued
   enlargement
   of the cardiac silhouette with extensive opacification in the
   retrocardiac
   region. This is most likely consistent with severe atelectasis and
   small
   effusion, though the possibility of supervening pneumonia could
   certainly not
   be excluded. The patchy opacification on the right is somewhat less.
   This
   most likely represents asymmetric pulmonary edema, though aspiration
   could
   certainly not be excluded.
   Monitoring and support devices are essentially unchanged.
   Microbiology: No new growth. Mycolytics remain negative.
   [**2177-3-10**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2177-3-10**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2177-3-7**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [**2177-3-5**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL {YEAST};
   FUNGAL CULTURE-PRELIMINARY {YEAST} INPATIENT
   [**2177-3-3**]  TISSUE GRAM STAIN-FINAL; TISSUE-FINAL {STAPH AUREUS COAG +,
   STENOTROPHOMONAS (XANTHOMONAS) MALTOPHILIA, ENTEROBACTER CLOACAE};
   ANAEROBIC CULTURE-FINAL; FUNGAL CULTURE-PRELIMINARY INPATIENT
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ALTERATION IN NUTRITION
 BACTEREMIA
 DIABETES MELLITUS (DM), TYPE II
 HYPOTHYROIDISM
 ULCERATIVE COLITIS
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 EPISTAXIS (NOSEBLEED)
 .H/O ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC
   KIDNEY DISEASE)
   Assessment:
   66 yo M with systolic CHF, OSA/Pulm HTN, CKD, DMII, severe PVD c/b
   multiple ulcerations presenting with massive fluid overload and acute
   on chronic renal failure in setting of a fib.  Now, in respiratory
   failure s/p intubation and with hypotension off pressors. Extubated and
   CVVH stopped yesterday. Recent code on [**2177-3-9**] in setting of
   hypotension, then hypoxia, then bradycardia. Successful resuscitation
   with short interval of hypotension and hypoperfusion, perhaps limited
   to 30 seconds.
   Plan:
   # Hypoxemic respiratory failure:
   Most likely [**1-7**] pulmonary edema, less likely PNA. Inspiratory force and
   hypoxia improved with diuresis.
   - Daily weaning trials
   - HOB elevation, chlorhexadine oral wash added, protonix (can DC if
   extubated)
   - Continue diuresis with CVVH
   - Continue antibiotics
   - Try PSV and wean down PEEP to 5 with goal of possible extubation
   today
   - Readdress goals of care, if no improvement in [**12-7**] days, wife may opt
   for terminal extubation
   # Volume Overload
   Likely related to poor forward flow and hypotension, and possibly cause
   of hypotension again today given cessation of CVVH. Unclear that this
   is the direct cause. Ultrafiltration had previously been slightly
   brisk, then stopped abruptly. Brisk volume off likely contributed to
   poor renal perfusion. Pt remains oliguric, will likely be dialysis
   dependent. Has been negative 2.4L.
   - Restart CVVH today with gentle goals off (per Renal, but about 50-100
   cc/hr net negative might be reasonable)
   - Continue ultrafiltration with goal 2-2.5L negative per day
   - Renal recs, appreciate their input
   # Hypotension (stable hypotension, not related to event)
   Improved, broadly. Had had better pressures in the last few days in the
   context of diuresis. Continued to maintain pressures in the context of
   rapid taper of stress-dose steroids. Improved with resolution of
   bleeding and cardioversion to sinus rhythm. Likely primarily
   cardiogenic in nature. For the last two day the patient was in AF again
   and pressures are slightly lower
 typically in 110s on average.
   - Continue CVVH with some gentle goal for negative given extravascular
   volume overload.
   - continue vanc/cefepime, plus increased fluconazole 800 mg IV Q24H
   (per ID and pharm)
   - Increasing Bactrim to DS 3.5 TAB PO/NG Q6H given concern for poor PO
   absorption
   # V fib arrest: Resolved for now. Probably [**1-7**] volume overload causing
   hypotension from poor Frank-Starling physiology leading to pulmonary
   edema, hypoxia and leading to bradycardia.
   - Continue CVVH
   - Continue amiodarone PO
   # LE ulcers
   [**1-7**] bad PVD. Now growing STAPH AUREUS COAG +, STENOTROPHOMONAS
   (XANTHOMONAS) MALTOPH, and ENTEROBACTER CLOACAE all sensitive to
   bactrim. Vascular has been following, and may recommend surgical
   debridement in future. Vascular not interested in intervention.
   - Continue increased Bactrim DS 3.5 TAB PO/NG Q6H given concern for
   poor PO absorption - continue vanco/cefepime (covering staph and
   enterobacter)
   - continue Bactrim (covering staph and stenotropo)
   - f/u blood cx results
   - Ask ID about course of ABx Rx
   - starting aspirin 81mg PO Daily (held due to recent severe ENT
   hemorrhage on [**2177-2-24**])
   - Consider restarting Lipitor (was on Lipitor 80mg PO Daily)
   # Yeast fungemia
   Noted on positive blood culture. Most likely source was central line
   (now resited).  No [**Female First Name (un) 444**] endophthalmitis per optho
   -DC Fluconazole today
   -f/u ID recs
   -f/u micro data
   # Low grade temp: In setting of CVVH.
   Likely due to
bear-hugger
, but will keep infection in mind. Patient
   is presently broadly covered.
   - Check C diff - negative
   # Thrombocytopenia: possibly secondary to PPI.
   - Stop PPI once extubated
   # Coagulopathy: Improved, with INR now 1.4. Possibly nutrition related.
   -trend CBC, INR, PTT
   -holding off on further anticoagulation, consider pt
s recent bleeding
   problems on heparin gtt, despite AF (we weight risk of stroke as lower
   than risk of catastrophic bleed).
   # Acute on chronic renal failure: Renal failure likely prerenal. Cr
   stable at 2.0 (baseline 1.6-1.8)
   -f/u renal recs
   -trend lytes [**Hospital1 **]
   # Tophaceous Gout: Diffuse tophi on exam.
   - continue renally adjusted dose of allopurinol
   - holding home colchicine for now
   - on steroids
   # Ulcerative colitis: On chronic steroids.
   - Steroid dose halved again today to 12.5 from 25 hydrocort (tapering
   down from stress-dosing)
   # Hypothyroidism: continuing home dose of levothyoxine, TSH normal,
   total T4 low, but pt has been on amio (unsure if level was checked
   before or after it was started)
   - continue current dose
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2177-3-12**] 02:12 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2177-2-23**] 09:02 PM
   Multi Lumen - [**2177-2-27**] 05:30 PM
   Dialysis Catheter - [**2177-3-5**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Protonix
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR/DNI, will readdress goals of care with wife who may
   consider terminal extubation if no improvement
   Disposition: CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 10860**]
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3287**], MD
   on:[**2177-3-12**] 14:43 ------

2177-03-13 07:24:00 Physician Resident Progress Note
Chief Complaint: Ulcer debridement
   24 Hour Events:
   [**3-12**] - [**3-13**]
   - ID recs: fluconzole stopped; cont IV vanc/cefepime/PO bactrim x6
   weeks (till [**4-14**]) due to + bone bx; will sign-off; f/u with [**Male First Name (un) **] K. as
   outpt.
   - Started aspirin 81 mg & prednisone 20 mg daily
   - SBT pH 7.32 -> 7.30, but otherwise did well; concern that he would
   tire and become more acidotic if extubated so put back on vent and will
   try again in am
   - Spoke to [**Doctor First Name 10036**] (Renal) and decided, given hypotension, to make goal
   for CVVHD to be even overnight. Was about -900 at 7 p.m.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2177-3-11**] 03:00 AM
   Fluconazole - [**2177-3-11**] 12:25 PM
   Vancomycin - [**2177-3-12**] 10:45 AM
   Cefipime - [**2177-3-13**] 05:00 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Norepinephrine - 0.06 mcg/Kg/min
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Denies pain.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-3-13**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.2
C (97.2
   HR: 69 (52 - 85) bpm
   BP: 106/39(59) {90/38(58) - 148/144(146)} mmHg
   RR: 17 (13 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 127.9 kg (admission): 112 kg
   Height: 73 Inch
    CVP: 9 (7 - 11)mmHg
   Total In:
                                                                  8,208 mL
                                                                  2,808 mL
   PO:
   TF:
                                                                    692 mL
                                                                    333 mL
   IVF:
                                                                  7,026 mL
                                                                  2,265 mL
   Blood products:
   Total out:
                                                                  9,793 mL
                                                                  2,958 mL
   Urine:
                                                                     45 mL
                                                                     10 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,585 mL
                                                                   -150 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (550 - 600) mL
   Vt (Spontaneous): 610 (584 - 610) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 40
   PIP: 31 cmH2O
   Plateau: 17 cmH2O
   Compliance: 72.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.36/43/122/22/-1
   Ve: 8 L/min
   PaO2 / FiO2: 305
   Physical Examination
   GEN: Obese, anasarcic man comfortably resting, responds to voice
   HEENT: NC/AT.
   CV: Faint HS. No m/r/g appreciated.
   LUNGS: Clear anteriorly.
   ABD: Soft, NTND. No HSM or tenderness.
   EXTREMITIES: Pitting edema in all 4 extremities, however, anasarca
   improved. Large ecchymosis present on right arm. All 4 extremities
   wrapped with ACE wraps.
   NEURO: Drowsy, sedated, but moves all 4 extremities by command
   Labs / Radiology
   110 K/uL
   9.5 g/dL
   180 mg/dL
   0.8 mg/dL
   22 mEq/L
   4.6 mEq/L
   8 mg/dL
   104 mEq/L
   137 mEq/L
   29.5 %
   5.5 K/uL
        [image002.jpg]
                             [**2177-3-12**]  10:08 AM
                             [**2177-3-12**]  12:15 PM
                             [**2177-3-12**]  12:25 PM
                             [**2177-3-12**]  04:23 PM
                             [**2177-3-12**]  06:06 PM
                             [**2177-3-12**]  06:10 PM
                             [**2177-3-12**]  10:19 PM
                             [**2177-3-12**]  10:50 PM
                             [**2177-3-13**]  03:43 AM
                             [**2177-3-13**]  04:30 AM
   WBC
   5.5
   Hct
   29.5
   Plt
   110
   Cr
   0.8
   0.8
   0.8
   0.8
   TCO2
   25
   25
   25
   24
   27
   25
   Glucose
   163
   184
   153
   150
   190
   180
   Other labs: PT / PTT / INR:15.7/25.9/1.4, CK / CKMB /
   Troponin-T:21//0.24, ALT / AST:16/21, Alk Phos / T Bili:164/1.1,
   Differential-Neuts:81.7 %, Lymph:7.7 %, Mono:5.5 %, Eos:4.2 %,
   D-dimer:238 ng/mL, Fibrinogen:588 mg/dL, Lactic Acid:1.4 mmol/L,
   Albumin:3.3 g/dL, LDH:185 IU/L, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:1.6
   mg/dL
   Imaging: CXR to be done
   Microbiology: [**2177-3-10**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   [**2177-3-10**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   MYCOLYTICS NEGATIVE
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ALTERATION IN NUTRITION
 BACTEREMIA
 DIABETES MELLITUS (DM), TYPE II
 HYPOTHYROIDISM
 ULCERATIVE COLITIS
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 EPISTAXIS (NOSEBLEED)
 .H/O ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC
   KIDNEY DISEASE)
   Assessment:
   66 yo M with systolic CHF, OSA/Pulm HTN, CKD, DMII, severe PVD c/b
   multiple ulcerations presenting with massive fluid overload and acute
   on chronic renal failure in setting of a fib.  Now, in respiratory
   failure s/p intubation and with hypotension off pressors. Extubated and
   CVVH stopped yesterday. Recent code on [**2177-3-9**] in setting of
   hypotension, then hypoxia, then bradycardia. Successful resuscitation
   with short interval of hypotension and hypoperfusion, perhaps limited
   to 30 seconds.
   Plan:
   # Hypoxemic respiratory failure:
   Most likely [**1-7**] pulmonary edema, less likely PNA. Inspiratory force and
   hypoxia improved with diuresis. Given recent fevers however, would be
   concerned for VAP given change in sputum color
   - Pan culture, including endotracheal sputum
   - Daily weaning trials
   - HOB elevation, chlorhexadine oral wash added, protonix (can DC if
   extubated)
   - Continue diuresis with CVVH
   - Continue antibiotics
   - Try PSV and wean down PEEP to 5 with goal of possible extubation
   today
   - Try to extubate today
   # Volume Overload
   Likely related to poor forward flow and hypotension, and possibly cause
   of hypotension again today given cessation of CVVH. Unclear that this
   is the direct cause. Pt remains oliguric, will likely be dialysis
   dependent. LOS balance at 1.4L positive.
   - Restart CVVH today with gentle goals off (per Renal, but about 50-100
   cc/hr net negative might be reasonable)
   - Continue ultrafiltration with goal 2-2.5L negative per day
   - Renal recs, appreciate their input
   - will try to wean levophed to expedite
   # Hypotension (stable hypotension, not related to event)
   Improved, broadly. Had had better pressures in the last few days in the
   context of diuresis. Continued to maintain pressures in the context of
   rapid taper of stress-dose steroids. Improved with resolution of
   bleeding and cardioversion to sinus rhythm. Likely primarily
   cardiogenic in nature. For the last two day the patient was in AF again
   and pressures are slightly lower
 typically in 110s on average.
   - Continue CVVH with some gentle goal for negative given extravascular
   volume overload.
   - continue vanc/cefepime, plus increased fluconazole 800 mg IV Q24H
   (per ID and pharm)
   - Increasing Bactrim to DS 3.5 TAB PO/NG Q6H given concern for poor PO
   absorption
   # Low grade temp: In setting of CVVH.
   Concern for infection given off of CVVH. However, also possibly due to
bear-hugger
, but will keep infection in mind. Patient is presently
   broadly covered.
   - Panculture blood, urine, sputum, and c diff
   # V fib arrest: Resolved for now. Probably [**1-7**] volume overload causing
   hypotension from poor Frank-Starling physiology leading to pulmonary
   edema, hypoxia and leading to bradycardia.
   - Continue CVVH
   - Continue amiodarone PO
   # LE ulcers
   [**1-7**] bad PVD. Now growing STAPH AUREUS COAG +, STENOTROPHOMONAS
   (XANTHOMONAS) MALTOPH, and ENTEROBACTER CLOACAE all sensitive to
   bactrim. Vascular has been following, and may recommend surgical
   debridement in future. Vascular not interested in intervention.
   - Continue increased Bactrim DS 3.5 TAB PO/NG Q6H given concern for
   poor PO absorption - continue vanco/cefepime (covering staph and
   enterobacter)
   - continue Bactrim (covering staph and stenotropo)
   - Check vanc trough today
   - f/u blood cx results
   - Ask ID about course of ABx Rx
   - starting aspirin 81mg PO Daily (held due to recent severe ENT
   hemorrhage on [**2177-2-24**])
   - Consider restarting Lipitor (was on Lipitor 80mg PO Daily)
   # Yeast fungemia
   Noted on positive blood culture. Most likely source was central line
   (now resited).  No [**Female First Name (un) 444**] endophthalmitis per optho
   -DC Fluconazole yesterday
   -f/u ID recs
   -f/u micro data
   # Thrombocytopenia: possibly secondary to PPI.
   - Stop PPI once extubated
   # Coagulopathy: Improved, with INR now 1.4. Possibly nutrition related.
   -trend CBC, INR, PTT
   -holding off on further anticoagulation, consider pt
s recent bleeding
   problems on heparin gtt, despite AF (we weight risk of stroke as lower
   than risk of catastrophic bleed).
   # Acute on chronic renal failure: Renal failure likely prerenal. Cr
   stable at 2.0 (baseline 1.6-1.8)
   -f/u renal recs
   -trend lytes [**Hospital1 **]
   # Tophaceous Gout: Diffuse tophi on exam.
   - continue renally adjusted dose of allopurinol
   - holding home colchicine for now
   - on steroids
   # Ulcerative colitis: On chronic steroids.
   - Steroid dose halved again today to 12.5 from 25 hydrocort (tapering
   down from stress-dosing)
   # Hypothyroidism: continuing home dose of levothyoxine, TSH normal,
   total T4 low, but pt has been on amio (unsure if level was checked
   before or after it was started)
   - continue current dose
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2177-3-12**] 02:12 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2177-2-23**] 09:02 PM
   Multi Lumen - [**2177-2-27**] 05:30 PM
   Dialysis Catheter - [**2177-3-5**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Protonix
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR/DNI, will readdress goals of care with wife who may
   consider terminal extubation if no improvement. No reintubation.
   Disposition: CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 10860**].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3287**], MD
   on:[**2177-3-13**] 15:38 ------

2177-03-14 06:46:00 Physician Resident Progress Note
Chief Complaint: ulcer debridement
   24 Hour Events:
 BLOOD CULTURED - At [**2177-3-13**] 10:30 AM
   from aline
 SPUTUM CULTURE - At [**2177-3-13**] 06:15 PM
 URINE CULTURE - At [**2177-3-13**] 07:00 PM
   [**3-13**]
   - developed erythematous blanching rash in dependent areas, ?drug rash,
   didn't change antibiotics
   - renal: continue cvvh with goal -1.5-2.5L/day
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2177-3-11**] 12:25 PM
   Vancomycin - [**2177-3-13**] 12:55 PM
   Cefipime - [**2177-3-14**] 05:38 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Fentanyl (Concentrate) - 40 mcg/hour
   Other ICU medications:
   Fentanyl - [**2177-3-13**] 02:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-3-14**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.1
C (97
   HR: 81 (60 - 86) bpm
   BP: 106/48(280) {95/37(57) - 123/79(280)} mmHg
   RR: 16 (12 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 127.9 kg (admission): 112 kg
   Height: 73 Inch
    CVP: 11 (7 - 12)mmHg
   Total In:
                                                                  8,336 mL
                                                                  1,940 mL
   PO:
   TF:
                                                                    968 mL
                                                                    158 mL
   IVF:
                                                                  6,708 mL
                                                                  1,692 mL
   Blood products:
   Total out:
                                                                 10,240 mL
                                                                  4,306 mL
   Urine:
                                                                     58 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,904 mL
                                                                 -2,366 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 972 (972 - 972) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 26
   PIP: 11 cmH2O
   Plateau: 0 cmH2O
   SpO2: 100%
   ABG: 7.36/39/118/21/-2
   Ve: 10.4 L/min
   PaO2 / FiO2: 295
   Physical Examination
   GEN: Obese, anasarcic man comfortably resting, responds to voice
   HEENT: NC/AT.
   CV: Faint HS. No m/r/g appreciated.
   LUNGS: Clear anteriorly.
   ABD: Soft, NTND. No HSM or tenderness.
   EXTREMITIES: Pitting edema in all 4 extremities, however, anasarca
   improved. Large ecchymosis present on right arm. All 4 extremities
   wrapped with ACE wraps.
   NEURO: Drowsy, sedated, but moves all 4 extremities by command
   Labs / Radiology
   95 K/uL
   10.1 g/dL
   148 mg/dL
   0.7 mg/dL
   21 mEq/L
   4.4 mEq/L
   8 mg/dL
   103 mEq/L
   136 mEq/L
   31.0 %
   5.8 K/uL
        [image002.jpg]
                             [**2177-3-12**]  10:19 PM
                             [**2177-3-12**]  10:50 PM
                             [**2177-3-13**]  03:43 AM
                             [**2177-3-13**]  04:30 AM
                             [**2177-3-13**]  10:49 AM
                             [**2177-3-13**]  11:01 AM
                             [**2177-3-13**]  04:28 PM
                             [**2177-3-13**]  04:35 PM
                             [**2177-3-14**]  04:20 AM
                             [**2177-3-14**]  04:35 AM
   WBC
   5.5
   5.5
   5.8
   Hct
   29.5
   28.3
   31.0
   Plt
   110
   100
   95
   Cr
   0.8
   0.8
   0.9
   0.8
   0.7
   TCO2
   27
   25
   26
   25
   23
   Glucose
   153
   150
   190
   180
   136
   206
   148
   Other labs: PT / PTT / INR:13.7/24.1/1.2, CK / CKMB /
   Troponin-T:21//0.24, ALT / AST:16/21, Alk Phos / T Bili:164/1.1,
   Differential-Neuts:73.0 %, Band:6.0 %, Lymph:6.0 %, Mono:11.0 %,
   Eos:2.0 %, D-dimer:238 ng/mL, Fibrinogen:588 mg/dL, Lactic Acid:1.4
   mmol/L, Albumin:3.3 g/dL, LDH:185 IU/L, Ca++:9.3 mg/dL, Mg++:2.1 mg/dL,
   PO4:1.5 mg/dL
   Imaging: CXR AP [**2177-3-13**]
   Compared to the film taken at 0848 hours on [**2177-3-11**], no
   significant
   changes identified. Increased alveolar and interstitial markings, more
   pronounced in the right lung compared to the left along with some
   volume loss
   in the left lower lobe noted as before. Left IJ line, right IJ sheath,
   ET
   tube, and nasogastric tube are without change.
   Microbiology: [**2177-3-14**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   [**2177-3-13**]  URINE URINE CULTURE-PENDING INPATIENT
   [**2177-3-13**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY
   INPATIENT
   [**2177-3-13**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2177-3-10**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2177-3-10**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2177-3-10**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   MYCOLYTICS NEGATIVE
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ALTERATION IN NUTRITION
 BACTEREMIA
 DIABETES MELLITUS (DM), TYPE II
 HYPOTHYROIDISM
 ULCERATIVE COLITIS
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 EPISTAXIS (NOSEBLEED)
 .H/O ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC
   KIDNEY DISEASE)
   Assessment:
   66 yo M with systolic CHF, OSA/Pulm HTN, CKD, DMII, severe PVD c/b
   multiple ulcerations presenting with massive fluid overload and acute
   on chronic renal failure in setting of a fib.  Now, in respiratory
   failure s/p intubation and with hypotension off pressors. Extubated and
   CVVH stopped yesterday. Recent code on [**2177-3-9**] in setting of
   hypotension, then hypoxia, then bradycardia. Successful resuscitation
   with short interval of hypotension and hypoperfusion, perhaps limited
   to 30 seconds.
   Plan:
   # Hypoxemic respiratory failure:
   Most likely [**1-7**] pulmonary edema, less likely PNA. Inspiratory force and
   hypoxia improved with diuresis. Given recent fevers however, would be
   concerned for VAP given change in sputum color, however sputum without
   microorganisms. Blood and urine cultures remain negative. Urine c/w
   UTI, however pt on broad spectrum [**Last Name (LF) 114**], [**First Name3 (LF) 116**] await culture.
   - F/u urine, blood, and sputum cx
   - F/u C diff tox
   - Daily weaning trials
   - HOB elevation, chlorhexadine oral wash added, protonix (can DC if
   extubated)
   - Continue diuresis with CVVH
   - Continue antibiotics
   - Try to wean off pressors prior to extubation although I suspect the
   pressors are needed for CVVH UF and positive intrathoracic pressure.
   - SBP, try to extubate today
   # Volume Overload
   Likely related to poor forward flow and hypotension, and possibly cause
   of hypotension again today given cessation of CVVH. Unclear that this
   is the direct cause. Pt remains oliguric, will likely be dialysis
   dependent. LOS balance at 1.4L positive.
   - Restart CVVH today with gentle goals off (per Renal, but about 50-100
   cc/hr net negative might be reasonable)
   - Continue ultrafiltration with goal 2-2.5L negative per day
   - Renal recs, appreciate their input
   - will try to wean levophed to expedite
   # Hypotension (stable hypotension, not related to event)
   Improved, broadly. Combination of UF, and positive pressure
   - Continue CVVH with some gentle goal for negative given extravascular
   volume overload.
   - continue vanc/cefepime, plus increased fluconazole 800 mg IV Q24H
   (per ID and pharm)
   - Increasing Bactrim to DS 3.5 TAB PO/NG Q6H given concern for poor PO
   absorption
   - Wean off pressors
   # Low grade temp: In setting of CVVH.
   Concern for infection given off of CVVH. However, also possibly due to
bear-hugger
, but will keep infection in mind. Patient is presently
   broadly covered.
   - Panculture blood, urine, sputum, and c diff
   # V fib arrest: Resolved for now. Probably [**1-7**] volume overload causing
   hypotension from poor Frank-Starling physiology leading to pulmonary
   edema, hypoxia and leading to bradycardia.
   - Continue CVVH
   - Continue amiodarone PO
   # LE ulcers
   [**1-7**] bad PVD. Now growing STAPH AUREUS COAG +, STENOTROPHOMONAS
   (XANTHOMONAS) MALTOPH, and ENTEROBACTER CLOACAE all sensitive to
   bactrim. Vascular has been following, and may recommend surgical
   debridement in future. Vascular not interested in intervention.
   - Continue increased Bactrim DS 3.5 TAB PO/NG Q6H given concern for
   poor PO absorption - continue vanco/cefepime (covering staph and
   enterobacter)
   - continue Bactrim (covering staph and stenotropo)
   - Check vanc trough today
   - f/u blood cx results
   - Ask ID about course of [**Month/Day (2) **] Rx
   - starting aspirin 81mg PO Daily (held due to recent severe ENT
   hemorrhage on [**2177-2-24**])
   - Consider restarting Lipitor (was on Lipitor 80mg PO Daily)
   # Yeast fungemia
   Noted on positive blood culture. Most likely source was central line
   (now resited).  No [**Female First Name (un) 444**] endophthalmitis per optho
   -DC Fluconazole [**2177-3-12**]
   -f/u ID recs
   -f/u micro data
   # Thrombocytopenia: possibly secondary to PPI.
   - Stop PPI once extubated
   # Coagulopathy: Improved, with INR now 1.4. Possibly nutrition related.
   -trend CBC, INR, PTT
   -holding off on further anticoagulation, consider pt
s recent bleeding
   problems on heparin gtt, despite AF (we weight risk of stroke as lower
   than risk of catastrophic bleed).
   # Acute on chronic renal failure: Renal failure likely prerenal. Cr
   stable at 2.0 (baseline 1.6-1.8)
   -f/u renal recs
   -trend lytes [**Hospital1 **]
   # Tophaceous Gout: Diffuse tophi on exam.
   - continue renally adjusted dose of allopurinol
   - holding home colchicine for now
   - on steroids
   # Ulcerative colitis: On chronic steroids.
   - Steroid dose halved again today to 12.5 from 25 hydrocort (tapering
   down from stress-dosing)
   # Hypothyroidism: continuing home dose of levothyoxine, TSH normal,
   total T4 low, but pt has been on amio (unsure if level was checked
   before or after it was started)
   - continue current dose
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2177-3-12**] 02:12 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2177-2-23**] 09:02 PM
   Multi Lumen - [**2177-2-27**] 05:30 PM
   Dialysis Catheter - [**2177-3-5**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Protonix
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR/DNI, will readdress goals of care with wife who may
   consider terminal extubation if no improvement. No reintubation.
   Disposition: CCU

2177-03-15 06:05:00 Physician Resident Progress Note
Chief Complaint: LE ulcer debridement
   24 Hour Events:
   [**3-14**]
   - held family meeting; goals of care transitioning towards comfort,
   would not reintubate
   - spoke with patient who appears slightly delerious; he expresses
   desire for us to communicate with his wife, "does not want anything
   done" at this time
   - extubated; did well
   - remained on low-dose pressors
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2177-3-14**] 10:20 AM
   Bactrim (SMX/TMP) - [**2177-3-15**] 12:04 AM
   Cefipime - [**2177-3-15**] 02:48 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-3-14**] 08:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-3-15**] 06:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36
C (96.8
   HR: 89 (57 - 99) bpm
   BP: 109/50(71) {87/41(57) - 123/58(77)} mmHg
   RR: 21 (10 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 127.9 kg (admission): 112 kg
   Height: 73 Inch
             Total In:
                                                                  7,628 mL
                                                                  2,129 mL
   PO:
             TF:
                                                                    158 mL
   IVF:
                                                                  7,260 mL
                                                                  2,129 mL
   Blood products:
   Total out:
                                                                 11,422 mL
                                                                  2,074 mL
   Urine:
                                                                     34 mL
                                                                      5 mL
   NG:
   Stool:
                                                                     20 mL
   Drains:
   Balance:
                                                                 -3,794 mL
                                                                     55 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 841 (743 - 1,063) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.37/36/115/22/-3
   Ve: 10.6 L/min
   PaO2 / FiO2: 287
   Physical Examination
   GEN: Obese, anasarcic man comfortably resting, responds to voice
   HEENT: NC/AT.
   CV: Faint HS. No m/r/g appreciated.
   LUNGS: Clear anteriorly.
   ABD: Soft, NTND. No HSM or tenderness.
   EXTREMITIES: Pitting edema in all 4 extremities, however, anasarca
   improved. Large ecchymosis present on right arm. All 4 extremities
   wrapped with ACE wraps.
   NEURO: Drowsy, sedated, but moves all 4 extremities by command
   Labs / Radiology
   74 K/uL
   9.0 g/dL
   128 mg/dL
   0.8 mg/dL
   22 mEq/L
   4.6 mEq/L
   6 mg/dL
   105 mEq/L
   138 mEq/L
   28.0 %
   5.6 K/uL
        [image002.jpg]
                             [**2177-3-14**]  04:35 AM
                             [**2177-3-14**]  08:32 AM
                             [**2177-3-14**]  09:45 AM
                             [**2177-3-14**]  09:59 AM
                             [**2177-3-14**]  03:01 PM
                             [**2177-3-14**]  03:11 PM
                             [**2177-3-14**]  09:30 PM
                             [**2177-3-14**]  09:41 PM
                             [**2177-3-15**]  03:56 AM
                             [**2177-3-15**]  04:07 AM
   WBC
   5.6
   Hct
   28.0
   Plt
   74
   Cr
   0.8
   0.8
   0.8
   0.8
   TCO2
   23
   24
   24
   22
   24
   22
   Glucose
   160
   131
   121
   128
   Other labs: PT / PTT / INR:14.2/25.7/1.2, CK / CKMB /
   Troponin-T:21//0.24, ALT / AST:16/21, Alk Phos / T Bili:164/1.1,
   Differential-Neuts:73.0 %, Band:6.0 %, Lymph:6.0 %, Mono:11.0 %,
   Eos:2.0 %, D-dimer:238 ng/mL, Fibrinogen:588 mg/dL, Lactic Acid:1.4
   mmol/L, Albumin:3.3 g/dL, LDH:185 IU/L, Ca++:9.0 mg/dL, Mg++:1.9 mg/dL,
   PO4:1.8 mg/dL
   Imaging: No new imaging.
   Microbiology: [**2177-3-14**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B
   TEST-FINAL INPATIENT - NEGATIVE
   [**2177-3-14**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2177-3-13**]  URINE URINE CULTURE-FINAL INPATIENT - NO GROWTH
   [**2177-3-13**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY
   INPATIENT - NO GROWTH
   [**2177-3-13**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2177-3-10**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2177-3-10**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2177-3-10**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   MYCOLYTICS REMAIN NEGATIVE
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ALTERATION IN NUTRITION
 BACTEREMIA
 DIABETES MELLITUS (DM), TYPE II
 HYPOTHYROIDISM
 ULCERATIVE COLITIS
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 EPISTAXIS (NOSEBLEED)
 .H/O ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC
   KIDNEY DISEASE)
   Assessment:
   66 yo M with systolic CHF, OSA/Pulm HTN, CKD, DMII, severe PVD c/b
   multiple ulcerations presenting with massive fluid overload and acute
   on chronic renal failure in setting of a fib.  Now, in respiratory
   failure s/p intubation and with hypotension off pressors. Extubated and
   CVVH stopped yesterday. Recent code on [**2177-3-9**] in setting of
   hypotension, then hypoxia, then bradycardia. Successful resuscitation
   with short interval of hypotension and hypoperfusion, perhaps limited
   to 30 seconds.
   Plan:
   # Volume Overload
   Likely related to poor forward flow and hypotension, and possibly cause
   of hypotension again today given cessation of CVVH. Unclear that this
   is the direct cause. Pt remains oliguric, will likely be dialysis
   dependent. LOS balance at 4L negative. But pt still significantly fluid
   overloaded with anasarca.
   - Restart CVVH today with gentle goals off (per Renal, but about 50-100
   cc/hr net negative might be reasonable)
   - Continue ultrafiltration with goal 2-2.5L negative per day
   - Renal recs, appreciate their input
   - will try to wean levophed today
   - Readdress goals of care on Monday
   # Hypotension (stable hypotension, not related to event)
   Improved, broadly. Combination of UF, and positive pressure
   - Continue CVVH with some gentle goal for negative given extravascular
   volume overload.
   - continue vanc/cefepime, plus increased fluconazole 800 mg IV Q24H
   (per ID and pharm)
   - Increasing Bactrim to DS 3.5 TAB PO/NG Q6H given concern for poor PO
   absorption
   - Wean off pressors
   # Hypoxia: Patient s/p successful extubation. Doing well requiring only
   40% FiO2 facemask. Cause of hypoxia is likely pulmonary edema, PNA less
   likely given lack of infiltrate, lack of sputum growth, fevers, or
   white count.
   - Continue UF with CVVH
   - Discuss with renal re long term goal whether pt is dialysis candidate
   # Altered mental status: Most consistent with ICU delirium. Steroid
   doses may be contributing, d/w pharmacy if this is equivalent to his
   maintainance dose of 20mg prednisone daily. Patient without active
   signs of infection including fevers, white count, and patient
   pan-cultures have been negative.
   - Frequent reorientation
   - Pull unnecessary lines
   - Bowel regimen
   # Low grade temp: In setting of CVVH.
   Concern for infection given off of CVVH. However, also possibly due to
bear-hugger
, but will keep infection in mind. Patient is presently
   broadly covered.
   - Panculture blood, urine, sputum, and c diff
   # V fib arrest: Resolved for now. Probably [**1-7**] volume overload causing
   hypotension from poor Frank-Starling physiology leading to pulmonary
   edema, hypoxia and leading to bradycardia.
   - Continue CVVH
   - Continue amiodarone PO
   # LE ulcers
   [**1-7**] bad PVD. Now growing STAPH AUREUS COAG +, STENOTROPHOMONAS
   (XANTHOMONAS) MALTOPH, and ENTEROBACTER CLOACAE all sensitive to
   bactrim. Vascular has been following, and may recommend surgical
   debridement in future. Vascular not interested in intervention.
   - Bactrim 560mg IV Q6H as pt is NPO for now (covering staph and
   stenotropo), total 6 week course, last dose [**2177-4-14**]
   - continue vanco/cefepime (covering staph and enterobacter) total 6
   week course, last dose [**2177-4-14**]
   - Check vanc trough today
   - f/u blood cx results
   - continuing aspirin 81mg PO Daily
   - Consider restarting Lipitor (was on Lipitor 80mg PO Daily)
   # Yeast fungemia
   Noted on positive blood culture. Most likely source was central line
   (now resited).  No [**Female First Name (un) 444**] endophthalmitis per optho
   -DC
d Fluconazole [**2177-3-12**]
   -f/u micro data
   # Thrombocytopenia: possibly secondary to PPI.
   - Will need to continue PPI as pt is on steroids, will switch to po
   famotidine once pt can swallow
   # Coagulopathy: Improved, with INR now 1.2. Possibly nutrition related.
   -trend CBC, INR, PTT
   -holding off on further anticoagulation, consider pt
s recent bleeding
   problems on heparin gtt, despite AF (we weigh risk of stroke as lower
   than risk of catastrophic bleed).
   # Acute on chronic renal failure: Renal failure likely prerenal. Cr
   stable at 2.0 (baseline 1.6-1.8)
   -continue CVVH
   -f/u renal recs
   -trend lytes [**Hospital1 **]
   # Tophaceous Gout: Diffuse tophi on exam.
   - continue renally adjusted dose of allopurinol
   - holding home colchicine for now
   - on steroids
   # Ulcerative colitis: On chronic steroids.
   - Steroid dose halved again today to 12.5 from 25 hydrocort (tapering
   down from stress-dosing)
   - Readjust dose to equal patient
s chronic prednisone 20mg PO daily
   dose
   # Hypothyroidism: continuing home dose of levothyoxine, TSH normal,
   total T4 low, but pt has been on amio (unsure if level was checked
   before or after it was started)
   - continue current dose
   ICU Care
   Nutrition:
   NPO for time being, will consider NG tube today, will avoid nostril
   that bled.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2177-2-23**] 09:02 PM
   Multi Lumen - [**2177-2-27**] 05:30 PM
   Dialysis Catheter - [**2177-3-5**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Protonix
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR/DNI, will readdress goals of care with wife who may
   consider terminal extubation if no improvement. No reintubation.
   Disposition: CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr. [**Last Name (STitle) 10860**].
   I would add the following remarks:
   History
   Removed 3.7 L fluid yesterday via CVVH.   He is noticeable less
   edematous and is stable following extubation.  He still requires low
   dose pressors for hemodynamic support.  He still requires a 40% FIO2
   but is not dyspneic with a PaO2 = 115.   He has ongoing osteomyelitis
   from severe PVD and he is being followed by our vascular surgery
   colleagues and wound care specialists.
   Medical Decision Making
   We have achieved our main goal of extubation and will review the
   possibility of transitioning CVVR over to hemodiialysis as a long-term
   therapy.    We are in the process of reviewing with the patient and
   family ultimate treatment goals of a rehabilitation center and regular
   dialysis as a therapeutic goal.   His antibiotics will be given for a
   total of 6 weeks.   [**First Name4 (NamePattern1) 3139**] [**Last Name (NamePattern1) 5279**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 3139**] [**Last Name (NamePattern1) 5279**], MD
   on:[**2177-3-15**] 10:56 ------

2177-03-16 06:26:00 Physician Resident Progress Note
Chief Complaint: Reason for admission: ulcer debridement
   Reason for transfer to CCU: HF and afib
   24 Hour Events:
   [**3-15**]
   - hydrocort changed to 20 mg IV Q12H to equal 20 mg QOD prednisone dose
   then changed to prednisone 10 mg daily post NGT placement
   - NGT placed, uncomplicated
   - bactrim changed to PO dosing
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2177-3-15**] 08:51 AM
   Bactrim (SMX/TMP) - [**2177-3-15**] 12:00 PM
   Cefipime - [**2177-3-15**] 05:00 PM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-3-15**] 08:26 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-3-16**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 82 (66 - 88) bpm
   BP: 107/45(65) {86/37(58) - 116/90(288)} mmHg
   RR: 21 (15 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 127.9 kg (admission): 112 kg
   Height: 73 Inch
             Total In:
                                                                  8,857 mL
                                                                  2,173 mL
   PO:
             TF:
                                                                    245 mL
                                                                    250 mL
   IVF:
                                                                  8,612 mL
                                                                  1,822 mL
   Blood products:
   Total out:
                                                                 10,335 mL
                                                                  2,046 mL
   Urine:
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,478 mL
                                                                    127 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.36/41/85.[**Numeric Identifier 433**]/22/-1
   Physical Examination
   GEN: Obese, anasarcic man comfortably resting, responds to voice
   HEENT: NC/AT.
   CV: Faint HS. No m/r/g appreciated.
   LUNGS: Clear anteriorly.
   ABD: Soft, NTND. No HSM or tenderness.
   EXTREMITIES: Pitting edema in all 4 extremities, however, anasarca
   improved. Large ecchymosis present on right arm. All 4 extremities
   wrapped with ACE wraps.
   NEURO: Drowsy, sedated, but moves all 4 extremities by command
   Labs / Radiology
   84 K/uL
   9.1 g/dL
   125 mg/dL
   0.7 mg/dL
   22 mEq/L
   4.0 mEq/L
   5 mg/dL
   106 mEq/L
   138 mEq/L
   28.2 %
   5.6 K/uL
        [image002.jpg]
                             [**2177-3-15**]  04:07 AM
                             [**2177-3-15**]  11:04 AM
                             [**2177-3-15**]  11:15 AM
                             [**2177-3-15**]  06:05 PM
                             [**2177-3-15**]  06:12 PM
                             [**2177-3-15**]  09:34 PM
                             [**2177-3-15**]  11:56 PM
                             [**2177-3-16**]  01:09 AM
                             [**2177-3-16**]  05:47 AM
                             [**2177-3-16**]  05:59 AM
   WBC
   5.6
   Hct
   28.2
   Plt
   84
   Cr
   0.7
   0.7
   0.7
   TCO2
   22
   22
   23
   25
   20
   24
   Glucose
   105
   125
   111
   125
   Other labs: PT / PTT / INR:14.2/25.7/1.2, CK / CKMB /
   Troponin-T:21//0.24, ALT / AST:16/21, Alk Phos / T Bili:164/1.1,
   Differential-Neuts:73.0 %, Band:6.0 %, Lymph:6.0 %, Mono:11.0 %,
   Eos:2.0 %, D-dimer:238 ng/mL, Fibrinogen:588 mg/dL, Lactic Acid:1.4
   mmol/L, Albumin:3.3 g/dL, LDH:185 IU/L, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL,
   PO4:1.9 mg/dL
   Fluid analysis / Other labs: None.
   Imaging: CXR [**3-15**]
   HISTORY: 66-year-old man with renal and respiratory failure. Now
   extubated.
   FINDINGS: Comparison is made to prior study from [**2177-3-15**].
   Bilateral central venous catheter and feeding tube are unchanged in
   position. There is mild improvement of the airspace opacities since the
   previous study as well as within the interstitial markings consistent
   with fluid overload. There are more confluent areas of opacification in
   the left retrocardiac area. These areas have also improved somewhat.
   There are bilateral pleural effusions, left side worse than right.
   Microbiology: No new. C. diff negative
   ECG: .
   Assessment
   66 yo M with systolic CHF, OSA/Pulm HTN, CKD, DMII, severe PVD c/b
   multiple ulcerations presenting with massive fluid overload and acute
   on chronic renal failure in setting of a fib.  Now, in respiratory
   failure s/p intubation and with hypotension off pressors. Extubated and
   CVVH stopped yesterday. Recent code on [**2177-3-9**] in setting of
   hypotension, then hypoxia, then bradycardia. Successful resuscitation
   with short interval of hypotension and hypoperfusion, perhaps limited
   to 30 seconds.
   Plan
   # Volume Overload
   Likely related to poor forward flow and hypotension, and possibly cause
   of hypotension again today given cessation of CVVH. Unclear that this
   is the direct cause. Pt remains oliguric, will likely be dialysis
   dependent. LOS balance at 4L negative. But pt still significantly fluid
   overloaded with anasarca.
   - Restart CVVH today with gentle goals off (per Renal, but about 50-100
   cc/hr net negative might be reasonable)
   - Continue ultrafiltration with goal 2-2.5L negative per day
   - Renal recs, appreciate their input
   - will try to wean levophed today
   - Readdress goals of care on Monday
   # Hypotension (stable hypotension, not related to event)
   Improved, broadly. Combination of UF, and positive pressure
   - Continue CVVH with some gentle goal for negative given extravascular
   volume overload.
   - continue vanc/cefepime, plus increased fluconazole 800 mg IV Q24H
   (per ID and pharm)
   - Increasing Bactrim to DS 3.5 TAB PO/NG Q6H given concern for poor PO
   absorption
   - Wean off pressors
   # Hypoxia: Patient s/p successful extubation. Doing well requiring only
   40% FiO2 facemask. Cause of hypoxia is likely pulmonary edema, PNA less
   likely given lack of infiltrate, lack of sputum growth, fevers, or
   white count.
   - Continue UF with CVVH
   - Discuss with renal re long term goal whether pt is dialysis candidate
   # Altered mental status: Most consistent with ICU delirium. Steroid
   doses may be contributing, d/w pharmacy if this is equivalent to his
   maintainance dose of 20mg prednisone daily. Patient without active
   signs of infection including fevers, white count, and patient
   pan-cultures have been negative.
   - Frequent reorientation
   - Pull unnecessary lines
   - Bowel regimen
   # Low grade temp: In setting of CVVH.
   Concern for infection given off of CVVH. However, also possibly due to
bear-hugger
, but will keep infection in mind. Patient is presently
   broadly covered.
   - Panculture blood, urine, sputum, and c diff
   # V fib arrest: Resolved for now. Probably [**1-7**] volume overload causing
   hypotension from poor Frank-Starling physiology leading to pulmonary
   edema, hypoxia and leading to bradycardia.
   - Continue CVVH
   - Continue amiodarone PO
   # LE ulcers
   [**1-7**] bad PVD. Now growing STAPH AUREUS COAG +, STENOTROPHOMONAS
   (XANTHOMONAS) MALTOPH, and ENTEROBACTER CLOACAE all sensitive to
   bactrim. Vascular has been following, and may recommend surgical
   debridement in future. Vascular not interested in intervention.
   - Bactrim 560mg IV Q6H as pt is NPO for now (covering staph and
   stenotropo), total 6 week course, last dose [**2177-4-14**]
   - continue vanco/cefepime (covering staph and enterobacter) total 6
   week course, last dose [**2177-4-14**]
   - Check vanc trough today
   - f/u blood cx results
   - continuing aspirin 81mg PO Daily
   - Consider restarting Lipitor (was on Lipitor 80mg PO Daily)
   # Yeast fungemia
   Noted on positive blood culture. Most likely source was central line
   (now resited).  No [**Female First Name (un) 444**] endophthalmitis per optho
   -DC
d Fluconazole [**2177-3-12**]
   -f/u micro data
   # Thrombocytopenia: possibly secondary to PPI.
   - Will need to continue PPI as pt is on steroids, will switch to po
   famotidine once pt can swallow
   # Coagulopathy: Improved, with INR now 1.2. Possibly nutrition related.
   -trend CBC, INR, PTT
   -holding off on further anticoagulation, consider pt
s recent bleeding
   problems on heparin gtt, despite AF (we weigh risk of stroke as lower
   than risk of catastrophic bleed).
   # Acute on chronic renal failure: Renal failure likely prerenal. Cr
   stable at 2.0 (baseline 1.6-1.8)
   -continue CVVH
   -f/u renal recs
   -trend lytes [**Hospital1 **]
   # Tophaceous Gout: Diffuse tophi on exam.
   - continue renally adjusted dose of allopurinol
   - holding home colchicine for now
   - on steroids
   # Ulcerative colitis: On chronic steroids.
   - Steroid dose halved again today to 12.5 from 25 hydrocort (tapering
   down from stress-dosing)
   - Readjust dose to equal patient
s chronic prednisone 20mg PO daily
   dose
   # Hypothyroidism: continuing home dose of levothyoxine, TSH normal,
   total T4 low, but pt has been on amio (unsure if level was checked
   before or after it was started)
   - continue current dose
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2177-3-16**] 01:57 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2177-2-23**] 09:02 PM
   Multi Lumen - [**2177-2-27**] 05:30 PM
   Dialysis Catheter - [**2177-3-5**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:Transfer to rehab / long term care facility